2145-06-16 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2145-6-15**] 05:30 PM
 ARTERIAL LINE - START [**2145-6-15**] 08:00 PM
 DIALYSIS CATHETER - START [**2145-6-15**] 08:00 PM
   - Minimal UOP to 160 mg IV lasix followed by 20mg/h gtt along with
   metolazone
   - Increasing O2 requirement-->intubated, fent/midaz started
   - Overnight HR increasing, MAPs falling into the 50s-->started
   phenylephrine gtt in addition to milrinone gtt.  Metoprolol IV started
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2145-6-15**] 09:00 PM
   Linezolid - [**2145-6-15**] 09:30 PM
   Cefipime - [**2145-6-15**] 10:30 PM
   Micafungin - [**2145-6-16**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Phenylephrine - 0.3 mcg/Kg/min
   Milrinone - 0.375 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2145-6-15**] 10:40 AM
   Morphine Sulfate - [**2145-6-15**] 01:03 PM
   Metoprolol - [**2145-6-16**] 05:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-16**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.4
C (95.8
   HR: 111 (82 - 126) bpm
   BP: 98/62(74) {85/48(59) - 122/80(96)} mmHg
   RR: 15 (14 - 38) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 21 (13 - 21)mmHg
   Mixed Venous O2% Sat: 39 - 39
   Total In:
                                                                  2,964 mL
                                                                    480 mL
   PO:
   TF:
   IVF:
                                                                  2,601 mL
                                                                    480 mL
   Blood products:
                                                                    294 mL
   Total out:
                                                                    672 mL
                                                                     86 mL
   Urine:
                                                                    372 mL
                                                                     86 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  2,292 mL
                                                                    394 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 140
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.45/31/128/22/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 256
   Physical Examination
   General Appearance: Thin, fluid overloaded, intubated
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal, Absent)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases), anterior exam only thus far
   Abdominal: Soft, Non-tender, Distended, Tender:
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   69 K/uL
   8.6 g/dL
   164 mg/dL
   3.1 mg/dL
   22 mEq/L
   4.2 mEq/L
   99 mg/dL
   100 mEq/L
   138 mEq/L
   23.9 %
   0.1 K/uL
        [image002.jpg]
                             [**2145-6-15**]  04:06 AM
                             [**2145-6-15**]  05:36 AM
                             [**2145-6-15**]  06:50 PM
                             [**2145-6-15**]  09:31 PM
                             [**2145-6-16**]  03:13 AM
                             [**2145-6-16**]  05:04 AM
   WBC
   0.1
   0.1
   Hct
   25.4
   24.2
   23.9
   Plt
   73
   72
   69
   Cr
   2.7
   2.8
   3.1
   TCO2
   25
   24
   22
   Glucose
   200
   211
   164
   Other labs: Differential-Neuts:40.0 %, Band:0.0 %, Lymph:60.0 %,
   Mono:0.0 %, Eos:0.0 %, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:6.7 mg/dL
   Fluid analysis / Other labs: freeCa:0.91
   Lactate:1.7
   PT: 23.3  PTT: 31.3  INR: 2.2
   Gran-Ct: 52
   ALT: 96 AP: 102 Tbili: 2.2 Alb: 2.7
   AST: 185 LDH: 513 Dbili: 1.6
   Eos: Negative No Eos Seen
   Imaging: CXR: R line in place ET Tube .8cm from carina based on best
   estimate, film poorly penetrated (supine) but patient looks volume
   overloaded.
   Renal U/S: No evidence of obstruction as cause for acute renal failure.
   Possible trace perisplenic fluid seen.
   Abdominal U/S
   1. Gallbladder edema without evidence of acute cholecystitis.
   2. No secondary signs of [**Last Name (un) 7615**]-occlusive disease.
   3. Increased liver echogenicity consistent with fatty infiltration.
   Other
   forms of liver disease including hepatic cirrhosis/fibrosis cannot be
   excluded
   on this study.
   TTE: EF 25-30% IMPRESSION: No valvular vegetations seen. Severe global
   biventricular systolic dysfunction. Normally-functioning aortic valve
   bioprosthesis. Moderate mitral and tricuspid regurgitation. Mild
   pulmonary hypertension. Mod MR & TR
   Microbiology: BCx [**Date range (1) 7763**] Entercoccus
   BCx [**Date range (1) 7792**] no growth to date
   Cath Tip Cx [**6-13**]: Entercoccus
   UCx [**6-13**]: (-)
   C. Diff [**6-15**]: (-)
   Assessment and Plan
 PULMONARY EDEMA
 DELIRIUM / CONFUSION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 BACTEREMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 ALKALOSIS, RESPIRATORY
   This is a 69 year old woman with AML, s/p 7+3. day 15 of
   non-myeloablative allogeneic double cord transplant, with PMH of
   bioprosthetic aortic valve, now in the ICU intubated after worsening
   mental status, increasing oxygen needs, and evident fluid overload in
   the setting of acute renal failure and heart failure as well as recent
   VRE bacteremia.
   HYPOXIC RESPIRATORY FAILURE: Intubated yesterday for hypoxia and
   altered mental status.  She remains fluid overloaded from heart and
   renal failure.  Her respiratory issues will not likely resolve until
   these issues are resolved.
   - Continue AC Ventilation
   HEART FAILURE: The patient
s EF is 25-30% however the etiology of this
   rapid reduction is unclear, whether cardiomyopathy, viral or bacterial
   myocarditis or a contribution of dysrhythmia.  Our care will be support
   at this point to allow the process to resolve.
   - Continue Milrinone & Phenylephrine
   - Metoprolol for rapid rate (varying between Sinus Tach with APCs and
   Atrial fibrillation)
   VRE Bacteremia:  Despite transient hypotension overnight after
   intubation, the patient does not display septic physiology. Known VRE
   bacteremia.  SEPSIS: Neutropenic without fever, VRE Bacteremia, line
   removed with VRE growing.  Recent BCx still not positive after 48
   hours. hypotension & tachycardia requiring phenylephrine and
   milrinone.  Beta blocker now added to manage rebound tachycardia.
   Linezolid for VRE (Also Flagyl, Micafungin, Cefepime).
   ACUTE RENAL FAILURE: Heart failure component, fluid overload. No
   response to Lasix gtt, HD line placed, to start on CVVH this morning.
   ALTERED MENTAL STATUS:
   A number of possible precipitants including renal failure and
   hospitalization as well as emotionally stressful situation but the most
   likely major contributor, especially given acute worsening around [**6-12**],
   is VRE bacteremia.
   - medical management of precipitating causes
   - would hold off on antipsychotics for now
   - BMT team has held remeron and sertraline with concern for interaction
   with linezolid; may be that acute discontinuation of these ends up
   being more problem[**Name (NI) 595**] for mental status; can consider psych consult vs
   simply plan for restart once linezolid is complete
   - can give zyprexa and ativan for now for agitation
   AML
   Continuing post-allo transplant protocol per BMT recommendations.
   - holding tacrolimus
   - continue CellCept
   - filgrastim per BMT recs
   - abx as above
   - transfuse platelets >10, or greater when procedures are contemplated;
   transfuse Hct >21
   ICU Care
   Nutrition: Will start Tube feeds
   Glycemic Control:
   Lines:
   22 Gauge - [**2145-6-14**] 09:30 PM
   Multi Lumen - [**2145-6-15**] 03:54 AM
   Arterial Line - [**2145-6-15**] 08:00 PM
   Dialysis Catheter - [**2145-6-15**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2145-06-17 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Milrinone order dropped off after 7pm, restarted at 11pm at .375
   -Increased Metoprolol to 10mg per cards
   -Increased Milrinone to 0.5 per cards recs as patient developed
   transient hypotension and worsening cardiac output
   - retracted CVL by 2cm
   - Continued sinus tach with PACs to 130s, given extra dose of
   metoprolol
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Linezolid - [**2145-6-16**] 08:12 PM
   Cefipime - [**2145-6-16**] 10:00 PM
   Micafungin - [**2145-6-17**] 04:03 AM
   Metronidazole - [**2145-6-17**] 05:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Milrinone - 0.38 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Metoprolol - [**2145-6-16**] 11:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-17**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.1
C (95.2
   HR: 129 (86 - 129) bpm
   BP: 105/77(89) {90/52(64) - 115/77(89)} mmHg
   RR: 6 (6 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 128.7 kg (admission): 123 kg
    CVP: 16 (10 - 18)mmHg
   Total In:
                                                                  3,689 mL
                                                                  1,633 mL
   PO:
   TF:
   IVF:
                                                                  3,106 mL
                                                                  1,633 mL
   Blood products:
                                                                    523 mL
   Total out:
                                                                  3,562 mL
                                                                  1,262 mL
   Urine:
                                                                    156 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                    127 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/33/89.[**Numeric Identifier 126**]/18/-1
   Ve: 9.2 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   45 K/uL
   9.7 g/dL
   114 mg/dL
   2.0 mg/dL
   18 mEq/L
   4.1 mEq/L
   62 mg/dL
   97 mEq/L
   133 mEq/L
   28.1 %
   0.1 K/uL
        [image002.jpg]
                             [**2145-6-15**]  09:31 PM
                             [**2145-6-16**]  03:13 AM
                             [**2145-6-16**]  05:04 AM
                             [**2145-6-16**]  02:22 PM
                             [**2145-6-16**]  02:53 PM
                             [**2145-6-16**]  06:29 PM
                             [**2145-6-16**]  09:21 PM
                             [**2145-6-16**]  10:39 PM
                             [**2145-6-17**]  03:34 AM
                             [**2145-6-17**]  04:59 AM
   WBC
   0.1
   0.1
   0.1
   Hct
   23.9
   27.6
   28.1
   Plt
   69
   28
   72
   45
   Cr
   3.1
   3.0
   2.8
   2.0
   TCO2
   24
   22
   23
   22
   22
   Glucose
   164
   142
   139
   114
   Other labs: PT / PTT / INR:24.3/38.3/2.4, ALT / AST:153/324, Alk Phos /
   T Bili:121/3.4, Differential-Neuts:40.0 %, Band:0.0 %, Lymph:60.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:571 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:2.8 g/dL, LDH:666 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.4
   mg/dL
   ABD US: NO VOD, fatty infiltrate of liver
   Reanl US: no obstruction
   Imaging: [**6-16**] CXR: ET tube tip is low, projecting less than 1 cm from
   the carina and should be
   withdrawn a couple of centimeters for standard positioning.
   Mild-to-moderate
   cardiomegaly is unchanged. Right IJ catheter tip is in the cavoatrial
   junction. Mild-to-moderate pulmonary edema persists. Bibasilar
   opacities are
   combination of pleural effusion and atelectasis. Of note, the right
   lateral
   CP angle was not included on the film.
   [**6-17**] cxr:
   Microbiology: BCX [**Date range (1) 7763**]: VRE
   HICKMAN TIP [**6-13**]: VRE
   BCX [**6-14**], [**6-15**], [**6-16**] NGTD
   CDIFF - X 2
   Assessment and Plan
 TRANSPLANT, BONE MARROW (BMT)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-15**], thought secondary to volume
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Anuric; temporary HD line placed [**6-15**]
 BACTEREMIA
   VRE bacteremia; on linezolid
 NEUTROPENIA
   On cefepime, flagyl, micafungin
 PULMONARY EDEMA
   --> DELIRIUM / CONFUSION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   s/p allo double cord SCT [**2145-5-28**]
 TACHYCARDIA, OTHER
   In setting of adrenergic state, milrinone
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   EF severely depressed on echo [**6-15**] (25-30%); on milrinone
 ALKALOSIS, RESPIRATORY
   This is a 69 year old woman with AML, s/p 7+3. day 15 of
   non-myeloablative allogeneic double cord transplant, with PMH of
   bioprosthetic aortic valve, now in the ICU intubated after worsening
   mental status, increasing oxygen needs, and evident fluid overload in
   the setting of acute renal failure and heart failure as well as recent
   VRE bacteremia.
   HYPOXIC RESPIRATORY FAILURE: Intubated yesterday for hypoxia and
   altered mental status.  She remains fluid overloaded from heart and
   renal failure.  Her respiratory issues will not likely resolve until
   these issues are resolved.
   - Continue AC Ventilation
   HEART FAILURE: The patient
s EF is 25-30% however the etiology of this
   rapid reduction is unclear, whether cardiomyopathy, viral or bacterial
   myocarditis or a contribution of dysrhythmia.  Our care will be support
   at this point to allow the process to resolve.
   - Continue Milrinone & Phenylephrine & metoprolol per HF team recs;
   goal MAP of 55-65 to minimize afterload
   - Metoprolol for rapid rate (varying between Sinus Tach with APCs and
   Atrial fibrillation)
   - minimize fluid intake to maximize net volume reduction
   ACUTE RENAL FAILURE: Granular casts indicate ATN, direct renal injury
   from ? chemotherapy, poor forward flow.
   -HD line placed, continue CVVH today with goal out 1-2L NET
   VRE BACTEREMIA:  Despite transient hypotension overnight after
   intubation, the patient does not display septic physiology. Known VRE
   bacteremia with line removed. Unclear if she has endocarditis, but as
   this will only effect long term duration of therapy and so is not
   acutely required.  Continues to be neutropenic.
   -  Linezolid for VRE (Also continuing Flagyl, Micafungin, Cefepime).
   - Of note cefepime completes 2 week course today for previous ecoli
   bactermia
no plan to stop given grave condition
   ALTERED MENTAL STATUS:  Prior to intubation the patient was altered in
   excess of her baseline anxiety.  Differential diagnosis includes
   bacteremia, sepsis, renal failure/uremia, underlying malignancy, med
   effect, delerium of the critically ill.
   - medical management of precipitating causes
   - would hold off on antipsychotics for now
   - will wean sedation for rpt neurologic eval in afternoon as pt with
   minimal pupil consstriction and upgoing toes currently.
   AML
   Continuing post-allo transplant protocol per BMT recommendations.
   - tacrolimus + dialy level, need to discuss po vs IV with BMT
   - continue CellCept
   - filgrastim per BMT recs
   - abx as above
   - transfuse platelets >20, or greater when procedures are contemplated;
   transfuse Hct >25
   Coagulopathy: INR trending up slowly. Will give Vit K and follow. Seems
   out of proportion to liver impairment. Likely contribution from poor
   nutritional status
   Transmainitis: Abd US tomorrow; concern for cholestasis as LFTs rising
   slowly.  Also likely due to hepatic congestion from CHF.
   ICU Care
   Nutrition: WILL ATTEMPT TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-6-15**] 03:54 AM
   Arterial Line - [**2145-6-15**] 08:00 PM
   Dialysis Catheter - [**2145-6-15**] 08:00 PM
   Prophylaxis:
   DVT: BOOTS
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-06-18 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Developed Afib with RVR, started on Amiodarone and continuing
   Metoprolol; converted to Sinus this AM
   -Increase on Milrinone and Levophed to maintain blood pressure
   -Unsuccessfully cardioverted overnight x2
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Linezolid - [**2145-6-17**] 08:00 PM
   Cefipime - [**2145-6-17**] 10:00 PM
   Metronidazole - [**2145-6-18**] 04:00 AM
   Micafungin - [**2145-6-18**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Amiodarone - 1 mg/min
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 5 mcg/Kg/min
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2145-6-18**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-18**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 127 (86 - 140) bpm
   BP: 76/54(61) {65/45(52) - 117/71(89)} mmHg
   RR: 17 (7 - 23) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 128.7 kg (admission): 123 kg
    CVP: 13 (9 - 19)mmHg
   Mixed Venous O2% Sat: 70 - 78
   Total In:
                                                                  6,897 mL
                                                                  1,875 mL
   PO:
   TF:
   IVF:
                                                                  6,697 mL
                                                                  1,875 mL
   Blood products:
   Total out:
                                                                  5,820 mL
                                                                     11 mL
   Urine:
                                                                     34 mL
                                                                     11 mL
   NG:
                                                                    270 mL
   Stool:
   Drains:
   Balance:
                                                                  1,077 mL
                                                                  1,864 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.42/37/101/21/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Labs / Radiology
   10 K/uL
   9.6 g/dL
   207 mg/dL
   1.7 mg/dL
   21 mEq/L
   4.1 mEq/L
   44 mg/dL
   97 mEq/L
   126 mEq/L
   26.7 %
   0.1 K/uL
        [image002.jpg]
                             [**2145-6-16**]  10:39 PM
                             [**2145-6-17**]  03:34 AM
                             [**2145-6-17**]  04:59 AM
                             [**2145-6-17**]  09:03 AM
                             [**2145-6-17**]  11:23 AM
                             [**2145-6-17**]  02:54 PM
                             [**2145-6-17**]  03:27 PM
                             [**2145-6-17**]  08:57 PM
                             [**2145-6-17**]  09:02 PM
                             [**2145-6-18**]  03:43 AM
   WBC
   0.1
   0.1
   0.2
   0.1
   Hct
   28.1
   25.4
   27.7
   26.7
   Plt
   72
   45
   28
   23
   10
   Cr
   2.0
   1.6
   1.5
   1.7
   TCO2
   22
   25
   22
   25
   Glucose
   114
   116
   110
   105
   207
   Other labs: Differential-Neuts:64.0 %, Band:0.0 %, Lymph:27.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:440 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:2.6 g/dL, LDH:237 IU/L, Ca++:8.1 mg/dL, Mg++:1.2 mg/dL, PO4:3.3
   mg/dL
   Fluid analysis / Other labs: AM Labs Pending: Concern for misdraw or
   error
   PT: 24.6  PTT: 44.8  INR: 2.4
   Fibrinogen: 440
   ALT: 187 AP: 130 Tbili: 0.8 AST: 396 LDH: 237
   Imaging: CXR:
   Microbiology: [**Date range (1) 7792**]: BCx: Pending
   Assessment and Plan
   This is a 69 year old woman with AML, s/p 7+3. day 15 of
   non-myeloablative allogeneic double cord transplant, with PMH of
   bioprosthetic aortic valve, now in the ICU intubated after worsening
   mental status, increasing oxygen needs, and evident fluid overload in
   the setting of acute renal failure and heart failure as well as recent
   VRE bacteremia.  She had a very difficult night with unstable atrial
   fibrillation.  As of the time of this note, she is still on large doses
   of pressors and requires intensive management.
   HYPOXIC RESPIRATORY FAILURE: Intubated for hypoxia and altered mental
   status.  She remains fluid overloaded from heart and renal failure,
   fluid boluses overnight.  Her respiratory issues will not likely
   resolve until these issues are resolved.
   - Continue AC Ventilation, CVVH as able
   ATRIAL FIBRILLATION: The patient developed atrial fibrillation with a
   rate of 140s, compromising her forward flow and resulting blood
   pressure.  She received unsuccessful cardioversion and termporarily
   successful amiodarone loading.
   - Continue metoprolol 10mg IV q4
   - Reload amiodarone 150mg/30 minutes, 1mg x6 hours, 0.5mg x 18 hours
   - Cardioversion as needed for hemodynamic stability
   HYPOTENSION: Atrial fibrillation plus diffuse inflammatory response
   from engraftment causing mixed cardiogenic and distributive shock.
   Currently with very high phenylephrine requirements.
   - Fluid boluses of 250mL as needed
   - Rate control of Atrial fibrillation as above
   - Continue phenylephrine as needed for goal MAPs 50-60, titrating down
   throughout the day as possible
   - Hydrocort 100mg IV x1, with Methylprenisolone 40mg IV BID thereafter
   - Hold CVVH until pressures stabilize
   VRE BACTEREMIA:  Continues to be neutropenic, not clearly septic.  Now
   engrafting.
   -  Linezolid for VRE (Also continuing Flagyl, Micafungin, Cefepime).
   - Of note cefepime completes 2 week course today for previous ecoli
   bactermia
no plan to stop given grave condition
   HEART FAILURE: The patient
s EF is 25-30%
   - Continue Milrinone & Phenylephrine & metoprolol per HF team recs;
   goal MAP of 55-65 to minimize afterload
   - Metoprolol for rapid rate (varying between Sinus Tach with APCs and
   Atrial fibrillation)
   ACUTE RENAL FAILURE: Granular casts indicate ATN, direct renal injury
   from ? chemotherapy, poor forward flow.
   -Continue CVVH as tolerated by BP
   ALTERED MENTAL STATUS:  Prior to intubation the patient was altered in
   excess of her baseline anxiety.  Differential diagnosis includes
   bacteremia, sepsis, renal failure/uremia, underlying malignancy, med
   effect, delerium of the critically ill.
   - medical management of precipitating causes
   - would hold off on antipsychotics for now
   - will wean sedation for rpt neurologic eval in afternoon as pt with
   minimal pupil consstriction and upgoing toes currently.
   AML
   Continuing post-allo transplant protocol per BMT recommendations.
   - Hold tacrolimus per BMT
   - continue CellCept
   - filgrastim per BMT recs
   - abx as above
   - transfuse platelets >20, or greater when procedures are contemplated;
   transfuse Hct >25
   Coagulopathy: INR trending up slowly. Will give Vit K and follow. Seems
   out of proportion to liver impairment. Likely contribution from poor
   nutritional status
   Transaminitis: T. Bili resolved very quickly, repeating labs
   ICU Care
   Nutrition: NPO now for residuals
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2145-6-15**] 03:54 AM
   Arterial Line - [**2145-6-15**] 08:00 PM
   Dialysis Catheter - [**2145-6-15**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2145-06-19 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Remains in normal sinus rhythm in 70s after re-loading amio
   Phenylephrine continues successful weaning despite CVVH
   Received 2 units FFP, 2 unit platelets, 2 units pRBC
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Linezolid - [**2145-6-18**] 07:20 PM
   Metronidazole - [**2145-6-18**] 09:00 PM
   Cefipime - [**2145-6-18**] 10:00 PM
   Acyclovir - [**2145-6-19**] 12:00 AM
   Micafungin - [**2145-6-19**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Phenylephrine - 0.6 mcg/Kg/min
   Milrinone - 0.5 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-6-18**] 06:18 PM
   Metoprolol - [**2145-6-19**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-19**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.4
C (95.7
   HR: 66 (63 - 108) bpm
   BP: 133/74(96) {70/43(52) - 133/74(96)} mmHg
   RR: 6 (0 - 16) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 128.7 kg (admission): 123 kg
    CVP: 19 (11 - 19)mmHg
   Mixed Venous O2% Sat: 74 - 79
   Total In:
                                                                  6,427 mL
                                                                  1,712 mL
   PO:
   TF:
   IVF:
                                                                  4,976 mL
                                                                  1,433 mL
   Blood products:
                                                                  1,451 mL
                                                                    279 mL
   Total out:
                                                                  1,222 mL
                                                                  1,830 mL
   Urine:
                                                                     46 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,205 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.47/30/103/24/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Gen: Edematous woman, intubated and sedated but responsive to painful
   stimuli
   HEENT: ET Tube/OG Tube in place, no JVD appreciated due to R CVL
   Cards: S1 & S2 regular with II/VI systolic murmur appreciated
   Pulm: Bibasilar crackles on lateral examination, ventilatory breath
   sounds bilaterally
   Abd: Non-distended or rigid
   Ext: Signficant edema, all extremities warm and well perfused
   Labs / Radiology
   23 K/uL
   9.6 g/dL
   198 mg/dL
   1.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   41 mg/dL
   93 mEq/L
   126 mEq/L
   25.8 %
   0.1 K/uL
        [image002.jpg]
                             [**2145-6-17**]  09:02 PM
                             [**2145-6-18**]  03:43 AM
                             [**2145-6-18**]  06:34 AM
                             [**2145-6-18**]  10:01 AM
                             [**2145-6-18**]  12:44 PM
                             [**2145-6-18**]  03:20 PM
                             [**2145-6-18**]  03:36 PM
                             [**2145-6-18**]  07:30 PM
                             [**2145-6-19**]  03:47 AM
                             [**2145-6-19**]  04:20 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   Hct
   26.7
   21.3
   19.1
   25.8
   Plt
   10
   16
   14
   38
   23
   Cr
   1.7
   1.8
   1.9
   2.0
   1.7
   TCO2
   25
   21
   22
   22
   Glucose
   105
   207
   199
   233
   238
   198
   Other labs: Differential-Neuts:64.0 %, Band:0.0 %, Lymph:27.0 %,
   Mono:9.0 %, Eos:0.0 %, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: PT: 21.4  PTT: 39.6  INR: 2.0
   Fibrinogen: 400
   ALT: 143 AP: 126 Tbili: 4.2 AST: 265 LDH: 467
   freeCa:1.09
   Lactate:1.4
   Imaging: CXR: Pending
   Microbiology: BCx [**Date range (1) 7877**] Pending (NGTD)
   Assessment and Plan
   A 69 yo lady with AML s/p 7+3 induction, DCB allo transplant with
   cardiac and renal failure resulting in hypervolemia, respiratory
   failure and worsening mental status.  She had a fairly calm evening
   overnight with no significant changes in her hemodynamics and a
   decreased pressor requirement.
   HYPOXIC RESPIRATORY FAILURE: Intubated for hypoxia and altered mental
   status.  She remains fluid overloaded from heart and renal failure,
   fluid boluses overnight.  Her respiratory issues will not likely
   resolve until these issues are resolved.
   - Continue AC Ventilation, CVVH with goal fluid removal today as the
   patient is more stable
   ATRIAL FIBRILLATION: The patient developed atrial fibrillation with a
   rate of 140s, compromising her forward flow and resulting blood
   pressure.  She received unsuccessful cardioversion and termporarily
   successful amiodarone loading.  After her second Amiodarone load
   yesterday the patient has converted to a normal sinus rhythm.
   - Continue metoprolol 10mg IV q4
   - Amiodarone load completes this morning, will continue 200mg per OG
   tube [**Hospital1 7**]
   HYPOTENSION: Atrial fibrillation plus diffuse inflammatory response
   from engraftment causing mixed cardiogenic and distributive shock. With
   the administration of steroids and rate correction, the patient
   hemodynamics have markedly improved.  She is currently requiring small
   amounts of milrinone and phenylephrine, mostly to sustain CVVH.
   - Continue phenylephrine as needed for goal MAPs 50-60, titrating down
   throughout the day as possible
   - Methylprenisolone 40mg IV BID
   HEART FAILURE: The patient
s EF is 25-30% with etiology either
   chemotherapy or infectious.  Her Svo2
s have improved, implying an
   increase in cardiac output on a consistent dose of milrinone.  In
   addition, her decreasing phenylephrine requirements allow for improved
   forward flow.
   - Continue Milrinone & Phenylephrine & metoprolol per HF team recs;
   goal MAP of 55-65 to minimize afterload
   - Metoprolol for atrial fibrilaltion control
   ACUTE RENAL FAILURE: Granular casts indicate ATN, direct renal injury
   from ? chemotherapy, poor forward flow.
   -Continue CVVH as tolerated by BP
   VRE BACTEREMIA:  Continues to be neutropenic, not clearly septic.  Now
   engrafting.
   -  Linezolid for VRE (Also continuing Flagyl, Micafungin, Cefepime).
   ALTERED MENTAL STATUS:  Prior to intubation the patient was altered in
   excess of her baseline anxiety.  Differential diagnosis includes
   bacteremia, sepsis, renal failure/uremia, underlying malignancy, med
   effect, delerium of the critically ill.
   - medical management of precipitating causes
   - would hold off on antipsychotics for now
   - will wean sedation for rpt neurologic eval in afternoon as pt with
   minimal pupil consstriction and upgoing toes currently.
   AML
   Continuing post-allo transplant protocol per BMT recommendations.
   - Hold tacrolimus per BMT, continue Methylprednisolone
   - continue CellCept
   - filgrastim per BMT recs
   - abx as above
   - transfuse platelets >20, or greater when procedures are contemplated;
   transfuse Hct >25
   Coagulopathy: INR trending up slowly. Will give Vit K and follow. Seems
   out of proportion to liver impairment. Likely contribution from poor
   nutritional status
   Transaminitis: LFTs increased slightly from yesterday, unclear
   significance but not likely hypoxic/shock, no new infections or toxic
   medication effect.
   - [**Hospital1 7**] LFTs
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-6-15**] 03:54 AM
   Arterial Line - [**2145-6-15**] 08:00 PM
   Dialysis Catheter - [**2145-6-15**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Post round addendum
   Will continue Amiodarone 0.5mg/min gtt as patient unable to tolerate PO
   medication.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4777**], MD
   on:[**2145-6-19**] 15:13 ------

2145-06-20 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Weaned Phenylephrine significantly
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Micafungin - [**2145-6-19**] 04:00 AM
   Linezolid - [**2145-6-19**] 09:02 PM
   Cefipime - [**2145-6-19**] 10:00 PM
   Acyclovir - [**2145-6-19**] 11:21 PM
   Metronidazole - [**2145-6-20**] 04:09 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Phenylephrine - 0.4 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-6-19**] 12:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-20**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.7
   HR: 68 (68 - 85) bpm
   BP: 128/74(96) {77/47(58) - 128/75(96)} mmHg
   RR: 12 (0 - 15) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 128.7 kg (admission): 123 kg
    CVP: 360 (22 - 361)mmHg
   Total In:
                                                                  5,832 mL
                                                                  1,344 mL
   PO:
   TF:
   IVF:
                                                                  5,167 mL
                                                                  1,344 mL
   Blood products:
                                                                    665 mL
   Total out:
                                                                  6,309 mL
                                                                  1,512 mL
   Urine:
                                                                     18 mL
   NG:
                                                                    120 mL
   Stool:
   Drains:
   Balance:
                                                                   -477 mL
                                                                   -168 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/35/114/21/1
   Ve: 9.6 L/min
   PaO2 / FiO2: 285
   Physical Examination
   Gen: Edematous woman, intubated and sedated but responsive to painful
   stimuli
   HEENT: ET Tube/OG Tube in place, no JVD appreciated due to R CVL
   Cards: S1 & S2 regular with II/VI systolic murmur appreciated
   Pulm: Bibasilar crackles on lateral examination, ventilatory breath
   sounds bilaterally
   Abd: Non-distended or rigid
   Ext: Signficant edema, all extremities warm and well perfused
   Labs / Radiology
   38 K/uL
   10.2 g/dL
   160 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.5 mEq/L
   29 mg/dL
   95 mEq/L
   130 mEq/L
   27.6 %
   0.1 K/uL
        [image002.jpg]
                             [**2145-6-18**]  07:30 PM
                             [**2145-6-19**]  03:47 AM
                             [**2145-6-19**]  04:20 AM
                             [**2145-6-19**]  08:50 AM
                             [**2145-6-19**]  11:25 AM
                             [**2145-6-19**]  05:53 PM
                             [**2145-6-19**]  10:10 PM
                             [**2145-6-20**]  12:10 AM
                             [**2145-6-20**]  12:42 AM
                             [**2145-6-20**]  05:27 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   0.1
   0.1
   Hct
   19.1
   25.8
   28.1
   26.6
   26.0
   27.6
   Plt
   38
   23
   53
   43
   30
   53
   48
   38
   Cr
   2.0
   1.7
   1.2
   TCO2
   22
   25
   Glucose
   238
   198
   160
   Other labs: Differential-Neuts:40.0 %, Band:10.0 %, Lymph:40.0 %,
   Mono:10.0 %, Eos:0.0 %, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: ALT: 123 AP: 145 Tbili: 5.6 Alb: 2.9
   AST: 185 LDH: 408
   PT: 19.6  PTT: 37.9  INR: 1.8
   Fibrinogen: 400
   Lactate:1.4
   Imaging: IJ & HD catheter in place, opacities unchanged from prior
   Microbiology: BCx [**6-14**]: GPCs in Pairs & chains
   Assessment and Plan
   A 69 yo lady with AML s/p 7+3 induction, DCB allo transplant with
   cardiac and renal failure resulting in hypervolemia, respiratory
   failure and worsening mental status.  She had a fairly calm evening
   overnight with no significant changes in her hemodynamics and a
   decreased pressor requirement.
   HYPOXIC RESPIRATORY FAILURE: Intubated for hypoxia and altered mental
   status.  She remains fluid overloaded from heart and renal failure,
   fluid boluses overnight.  Her respiratory issues will not likely
   resolve until these issues are resolved.
   - Continue AC Ventilation, CVVH with goal fluid removal today as the
   patient is more stable
   HYPOTENSION: Atrial fibrillation plus diffuse inflammatory response
   from engraftment causing mixed cardiogenic and distributive shock. With
   the administration of steroids and rate correction, the patient
   hemodynamics have markedly improved.  She is currently requiring small
   amounts of milrinone and phenylephrine, mostly to sustain CVVH.
   - Continue phenylephrine as needed for goal MAPs 50-60, weaning to 0 as
   tolerated.
   - Methylprenisolone 40mg IV BID
   HEART FAILURE: The patient
s EF is 25-30% with etiology either
   chemotherapy or infectious.  Her Svo2
s have improved, implying an
   increase in cardiac output on a consistent dose of milrinone.  In
   addition, her decreasing phenylephrine requirements allow for improved
   forward flow.
   - Continue Milrinone & Phenylephrine & metoprolol per HF team recs;
   goal MAP of 55-65 to minimize afterload
   - Amiodarone for Afib control
   VRE BACTEREMIA:  Continues to be neutropenic, not clearly septic.
   Cultures from [**6-14**] are now positive for GPCs, concerning for continue
   enterococcus.
   -  Linezolid for VRE (Also continuing Flagyl, Micafungin, Cefepime)
   - Surveillance Cultures
   ATRIAL FIBRILLATION: The patient remains in normal sinus rhythm while
   on Amiodarone.
   - Hold metoprolol while on amiodarone
   - Continue Amiodarone 0.5mg/min while unable to tolerate POs
   ACUTE RENAL FAILURE: Granular casts indicate ATN, direct renal injury
   from ? chemotherapy, poor forward flow.
   -Continue CVVH as tolerated by BP
   AML
   Continuing post-allo transplant protocol per BMT recommendations.
   - Hold tacrolimus per BMT, continue Methylprednisolone: Checking levels
   today to titrate new dose (transmucosal powder with goal level [**5-27**])
   - continue CellCept
   - filgrastim per BMT recs
   - transfuse platelets >20, or greater when procedures are contemplated;
   transfuse Hct >25
   Transaminitis: T. Bili trending up with other LFTs resolving, concern
   for hemolysis from CVVH versus intra hepatic/cholestatic process.
   - RUQ U/S today
   ALTERED MENTAL STATUS:  Prior to intubation the patient was altered in
   excess of her baseline anxiety.  Differential diagnosis includes
   bacteremia, sepsis, renal failure/uremia, underlying malignancy, med
   effect, delerium of the critically ill.
   - medical management of precipitating causes
   - would hold off on antipsychotics for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-6-15**] 03:54 AM
   Arterial Line - [**2145-6-15**] 08:00 PM
   Dialysis Catheter - [**2145-6-15**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2145-06-21 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No acute events or changes in management overnight.
   Family updated.
   Amio dosing d/w pharmacy
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Linezolid - [**2145-6-20**] 10:58 PM
   Metronidazole - [**2145-6-21**] 12:26 AM
   Cefipime - [**2145-6-21**] 01:40 AM
   Acyclovir - [**2145-6-21**] 02:27 AM
   Micafungin - [**2145-6-21**] 03:39 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Phenylephrine - 0.4 mcg/Kg/min
   Amiodarone - 0.25 mg/min
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-21**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.3
C (95.5
   HR: 79 (71 - 83) bpm
   BP: 117/63(83) {68/41(49) - 144/83(336)} mmHg
   RR: 13 (12 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 123.1 kg (admission): 123 kg
    CVP: 15 (15 - 15)mmHg
   SvO2: 80%
   Mixed Venous O2% Sat: 80 - 80
   Total In:
                                                                  5,125 mL
                                                                  1,119 mL
   PO:
   TF:
   IVF:
                                                                  4,650 mL
                                                                  1,119 mL
   Blood products:
                                                                    475 mL
   Total out:
                                                                  6,495 mL
                                                                  1,284 mL
   Urine:
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,370 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.47/34/98.[**Numeric Identifier 176**]/24/0
   Ve: 6.2 L/min
   PaO2 / FiO2: 245
   Physical Examination
   INTUBATED, UNRESPONSIVE, EYES OPEN (NEW), NOT WITHDRAWIANG TO PAIN,
   PERRLA, ANASARCA PERSISTS
   Labs / Radiology
   24 K/uL
   11.1 g/dL
   171 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.6 mEq/L
   22 mg/dL
   94 mEq/L
   129 mEq/L
   29.7 %
   0.1 K/uL
        [image002.jpg]
                             [**2145-6-19**]  10:10 PM
                             [**2145-6-20**]  12:10 AM
                             [**2145-6-20**]  12:42 AM
                             [**2145-6-20**]  05:27 AM
                             [**2145-6-20**]  10:43 AM
                             [**2145-6-20**]  11:25 AM
                             [**2145-6-20**]  05:15 PM
                             [**2145-6-20**]  05:42 PM
                             [**2145-6-20**]  11:58 PM
                             [**2145-6-21**]  06:16 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   Hct
   26.0
   27.6
   26.0
   24.1
   28.6
   29.7
   Plt
   53
   48
   38
   28
   21
   36
   24
   Cr
   1.2
   1.0
   0.9
   1.0
   TCO2
   25
   24
   25
   Glucose
   160
   149
   143
   171
   Other labs: PT / PTT / INR:17.0/34.1/1.5, ALT / AST:105/138, Alk Phos /
   T Bili:156/6.8, Amylase / Lipase:27/15, Differential-Neuts:70.0 %,
   Band:0.0 %, Lymph:10.0 %, Mono:20.0 %, Eos:0.0 %, Fibrinogen:338 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:446 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Imaging: Abd US: Nondiagnostic right upper quadrant ultrasound study,
   significantly limited by the patient's underlying large body habitus
   and
   severe anasarca.
   CXR: interval improvement of pulm vasc congestion
   Microbiology: last BCX growing enterocococcus on [**6-14**]
   pending BCX [**Date range (1) 7905**]
   CMV viral load pending
   Assessment and Plan
 TRANSPLANT, BONE MARROW (BMT)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-15**], thought secondary to volume
 DELIRIUM / CONFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Anuric; temporary HD line placed [**6-15**]
 BACTEREMIA
   VRE bacteremia; on linezolid
 NEUTROPENIA
   On cefepime, flagyl, micafungin, linezolid
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   S/p allo double cord SCT [**2145-5-28**]
 TACHYCARDIA, OTHER
   In setting of adrenergic state, milrinone
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   EF severely depressed on echo [**6-15**] (25-30%); on milrinone
 ALKALOSIS, RESPIRATORY
   A 69 yo lady with AML s/p 7+3 induction, DCB allo transplant with
   cardiac and renal failure resulting in hypervolemia and subsequent
   respiratory failure requiring intubaion and worsening mental status.
   HYPOXIC RESPIRATORY FAILURE: Intubated for hypoxia and altered mental
   status.  She remains fluid overloaded from heart and renal failure.
   Her respiratory issues will not likely resolve until these issues are
   resolved.
   - Continue AC Ventilation, CVVH with goal fluid removal today as the
   patient is more stable.
   HYPOTENSION/ Cardioenic Shock: Atrial fibrillation plus diffuse
   inflammatory response from engraftment causing mixed [**Month/Year (2) 7910**] and
   distributive shock. With the administration of steroids and rate
   correction, the patient
s hemodynamics have markedly improved.  She is
   currently requiring small amounts of milrinone and phenylephrine,
   mostly to sustain CVVH.   Question has been raised of whether we are at
   a point where both milrinone and neo can be weaned simultaneously.
   - aim to wean milrinone and neo over the course of today aiming for
   MAPs in the range of 65 (goal is low afterload given MR [**First Name (Titles) **] [**Last Name (Titles) 7910**]
   component to shock)
   - Methylprenisolone 40mg IV BID, discuss duration with BMT.
   VRE BACTEREMIA:  Continues to be neutropenic, not clearly septic.
   Expect her to truly clear infection once counts return. Cultures from
   [**6-14**] are now positive for GPCs, concerning for continued enterococcus
   bacterimia.
   -  Linezolid for VRE (Also continuing Flagyl, Micafungin, Cefepime)
   - Surveillance Cultures as CVVH lowers sensitivity of temp curve.
   ATRIAL FIBRILLATION: The patient remains in normal sinus rhythm while
   on Amiodarone. Discussed dosing with pharm. Bioavailabilty of po is
   half of IV, therefore oral dose of 400 [**Hospital1 **] is equivalent to 400mg over
   course of day which is approx 0.25mg/min
can continue this dose for one
   week (starting [**2145-6-19**]).  Possible drug interaction with tacro,
   boosting tacro levels.
   - Holding metoprolol while on amiodarone
   - Continue Amiodarone 0.25mg/min while unable to tolerate POs, switch
   to PO when possible.
   ACUTE RENAL FAILURE: Granular casts indicate ATN, direct renal injury
   from ? chemotherapy, poor forward flow.
   -Continue CVVH as tolerated by BP
   AML
   Continuing post-allo transplant protocol per BMT recommendations.
   - Hold tacrolimus per BMT, continue Methylprednisolone: tacro levels
   still elevated (amio interaction?); once tacro levels dip, may need
   transmucosal preparation per BMT
   - continue CellCept
   - filgrastim per BMT recs
   - transfuse platelets >20, or greater when procedures are contemplated;
   transfuse Hct >25
   Transaminitis: T. Bili trending up with other LFTs resolving, concern
   for hemolysis from CVVH versus intra hepatic/cholestatic process.
   - RUQ U/S  non-diagnostic
   - trend further, CT if worsening
   ALTERED MENTAL STATUS:  Prior to intubation the patient was altered in
   excess of her baseline anxiety.  Differential diagnosis includes
   bacteremia, sepsis, renal failure/uremia, underlying malignancy, med
   effect, delerium of the critically ill.
   - medical management of precipitating causes
   - would hold off on antipsychotics for now
   ICU Care
   Nutrition: HIGH RESIDUALS, NOT TOLERATING TUBE FEEDS, NOT ON TPN B/C OF
   ACCESS ISSUES, CAN BE RE-ADDRESSED IF WEANS OF MILRINONE AND NEO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-6-15**] 03:54 AM
   Arterial Line - [**2145-6-15**] 08:00 PM
   Dialysis Catheter - [**2145-6-15**] 08:00 PM
   Prophylaxis:
   DVT: BOOTS
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-06-22 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**6-21**]
   - weaned milrinone off
   - did not tolerate weaing neo overnight, cardiac index 3.3
   - tacrolimus level still supratherapeutic yesterday
   - received 1 unit plts
   - restarted TF at 10cc/h, but high residuals 240. stopped TF [**6-21**]
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Linezolid - [**2145-6-21**] 09:30 PM
   Cefipime - [**2145-6-21**] 11:55 PM
   Acyclovir - [**2145-6-22**] 12:14 AM
   Micafungin - [**2145-6-22**] 03:25 AM
   Metronidazole - [**2145-6-22**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Phenylephrine - 0.3 mcg/Kg/min
   Amiodarone - 0.25 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-22**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.7
C (96.3
   HR: 80 (75 - 101) bpm
   BP: 139/75(102) {75/44(54) - 142/80(104)} mmHg
   RR: 18 (12 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.6 kg (admission): 123 kg
    CVP: 16 (7 - 16)mmHg
   Total In:
                                                                  4,747 mL
                                                                  1,195 mL
   PO:
   TF:
                                                                     24 mL
   IVF:
                                                                  4,469 mL
                                                                  1,195 mL
   Blood products:
                                                                    254 mL
   Total out:
                                                                  6,086 mL
                                                                  1,792 mL
   Urine:
                                                                     29 mL
                                                                     18 mL
   NG:
                                                                     60 mL
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,339 mL
                                                                   -597 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.49/34/132/21/3
   Ve: 5.6 L/min
   PaO2 / FiO2: 330
   Physical Examination
   GEN: INTUBATED, UNRESPONSIVE, EYES OPEN
   HEENT: ET tube in place
   CHEST: CTA B
   CV: RRR, no murmur
   NEURO: NOT WITHDRAWIANG TO PAIN, PERRLA,
   EXT: ANASARCA PERSISTS
   Labs / Radiology
   32 K/uL
   9.1 g/dL
   133 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.4 mEq/L
   20 mg/dL
   97 mEq/L
   127 mEq/L
   24.1 %
   0.1 K/uL
        [image002.jpg]
   Na rechecked at 9AM was 130
                             [**2145-6-20**]  11:58 PM
                             [**2145-6-21**]  06:16 AM
                             [**2145-6-21**]  12:12 PM
                             [**2145-6-21**]  12:31 PM
                             [**2145-6-21**]  04:38 PM
                             [**2145-6-21**]  06:31 PM
                             [**2145-6-21**]  10:10 PM
                             [**2145-6-21**]  10:27 PM
                             [**2145-6-22**]  03:12 AM
                             [**2145-6-22**]  04:25 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   Hct
   28.6
   29.7
   28
   25.4
   24.1
   Plt
   36
   24
   59
   32
   Cr
   0.9
   1.0
   0.9
   0.7
   TCO2
   25
   23
   25
   27
   Glucose
   143
   171
   193
   169
   185
   133
   Other labs: PT / PTT / INR:16.1/34.0/1.4, ALT / AST:105/138, Alk Phos /
   T Bili:156/6.8, Amylase / Lipase:27/15, Differential-Neuts:70.0 %,
   Band:0.0 %, Lymph:10.0 %, Mono:20.0 %, Eos:0.0 %, Fibrinogen:338 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:446 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.5 mg/dL
   Ionzied Ca 1.06
   CMV viral load
 not dedected
   Blood cx [**6-20**]:  pending
   Blood cx [**6-16**]: negative
   Blood cx [**6-15**]: negative
   Blood cx [**6-14**]: enterococcus
   Assessment and Plan
 TRANSPLANT, BONE MARROW (BMT)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-15**], thought secondary to volume
 DELIRIUM / CONFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Anuric; temporary HD line placed [**6-15**]
 BACTEREMIA
   VRE bacteremia; on linezolid
 NEUTROPENIA
   On cefepime, flagyl, micafungin, linezolid
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   S/p allo double cord SCT [**2145-5-28**]
 TACHYCARDIA, OTHER
   In setting of adrenergic state, milrinone
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   EF severely depressed on echo [**6-15**] (25-30%); on milrinone
 ALKALOSIS, RESPIRATORY
   A 69 yo lady with AML s/p 7+3 induction, DCB allo transplant with
   cardiac and renal failure resulting in hypervolemia and subsequent
   respiratory failure requiring intubaion and worsening mental status.
   HYPOXIC RESPIRATORY FAILURE: Intubated for hypoxia and altered mental
   status.  She remains fluid overloaded from heart and renal failure.
   Her respiratory issues will not likely resolve until these issues are
   resolved.
   - Continue vent on CMV assist
   - CVVH with goal fluid removal
   HYPOTENSION/ Cardioenic Shock mixed with diffuse inflammatory response
   from engraftment causing mixed cardiogenic and distributive shock.
   Improved with steriods and afib control. Weaned off milrinone, still on
   phenylephrine
   - wean phenylephrine, goal SBP >80
   - Continuing Methylprenisolone 40mg IV BID, discuss duration with BMT.
   VRE BACTEREMIA:  Continues to be neutropenic, not clearly septic. Will
   need return of counts. Enterococcus bacterimia seen last on [**6-14**].
   -  Linezolid for VRE
   - Surveillance Cultures if febrile or unstable
   - awaiting results of TTE, consider TEE to r/o endocariditis
   - ID recs
   - will d/c flagyl since no clear indication
   PANCYTOPENIA: WBC stable at 0.1. Given 1 unit of plts. Hct of 24.1
   today, however, trying to remove fluid with CVVH, and no current sign
   of bleeding. Due to AMS and neutropenia was started on flagyl,
   micafungin, cefepime, and linezolid
   - continue on mica, cefe, and linezolid until counts improve for 2 week
   course
   - BMT recs
   - monitor ANC
   - on filgrastim per BMT recs
   - will transfuse platelets >20, or greater when procedures are
   contemplated;
   - transfuse Hct >24 or unstable
   - recheck PM hct
   ATRIAL FIBRILLATION: In sinus rhythm while on Amiodarone.
   Bioavailabilty of po is half of IV. Possible drug interaction with
   tacro, boosting tacro levels.
   - continue 0.25mg/min for seven days, (last day [**2145-6-25**]), then discuss
   with cards PO dosing or decreased IV dose.
   - Holding metoprolol while on amiodarone.
   ACUTE RENAL FAILURE: Granular casts indicate ATN, direct renal injury
   from ? chemotherapy, poor forward flow.
   -Continue CVVH as tolerated by BP
   - goal negative 1 liter today
   AML: Continuing post-allo transplant protocol per BMT recommendations.
   - Hold tacrolimus per BMT, once tacro levels dip, may need transmucosal
   preparation per BMT
   - continue Methylprednisolone
   - continue CellCept
   - BMT recs
   TRANSAMINITIS: T. Bili trending up with other LFTs resolving, concern
   for hemolysis from CVVH versus intra hepatic/cholestatic process. RUQ
   U/S  non-diagnostic Also high tube feed residuls, concern for
   obstruction
   - trend further, CT if worsening
   - checking KUB for obstruction
   ALTERED MENTAL STATUS:  Prior to intubation the patient was altered in
   excess of her baseline anxiety.  Differential diagnosis includes
   bacteremia, sepsis, renal failure/uremia, underlying malignancy, med
   effect, delerium of the critically ill.
   - medical management of precipitating causes
   - would hold off on antipsychotics for now
   - decreased sedation to see if more responsive
   HYPONATREMIA: Na was 127, now at 130, been stable for last several
   days, but lower then baseline. Likely secondary to hypervolemia
   hyponatremia
   - monitor [**Hospital1 7**] Na
   - correct with CVVH
   ICU Care
   Nutrition: HIGH RESIDUALS, NOT TOLERATING TUBE FEEDS, was not on TPN,
   secondary to access issues initally and transaminitis can be
   readdressed if stil not tolearting tube feeds
   Glycemic Control:  Lantus 10 units, plus SSI
   Lines:
   Multi Lumen - [**2145-6-15**] 03:54 AM
   Arterial Line - [**2145-6-15**] 08:00 PM
   Dialysis Catheter - [**2145-6-15**] 08:00 PM
   Prophylaxis:
   DVT: BOOTS
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-06-23 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - stopped acyclovir for time being per renal, BMT okay w/ it (will
   eventually need to be restarted), need to see if it possible to get
   aeorosolized pentamidine on vent
   - discuss w/ ID if flagyl, and aggreed to stop
   - ID wants to get TEE - need to talk to cards
   - weaned off neo
   - peep 5
   - lfts unchanged
   - TTE ECHO - Mild to moderate global biventricular systolic
   dysfunction. Preserved cardiac index. Moderate diastolic dysfunction
   with elevated estimated filling pressures. Well-functioning
   bioprosthetic aortic valve. Mild mitral regurgitation.
   Compared with the prior study (images reviewed) of [**2145-6-15**],
   biventricular systolic function is more vigorous. The severity of
   mitral and tricuspid regurgitation is reduced.
   - KUB without obstruction, started reaglan
   - transfused 1 unit plt
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2145-6-22**] 12:10 PM
   Acyclovir - [**2145-6-22**] 01:10 PM
   Cefipime - [**2145-6-22**] 10:00 PM
   Linezolid - [**2145-6-23**] 02:00 AM
   Micafungin - [**2145-6-23**] 04:10 AM
   Infusions:
   Amiodarone - 0.25 mg/min
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2145-6-22**] 09:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-23**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.5
C (95.9
   HR: 90 (74 - 100) bpm
   BP: 116/69(89) {96/54(69) - 140/84(108)} mmHg
   RR: 13 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120.9 kg (admission): 123 kg
    CVP: 11 (7 - 15)mmHg
   Mixed Venous O2% Sat: 98 - 98
   Total In:
                                                                  4,577 mL
                                                                  1,409 mL
   PO:
   TF:
   IVF:
                                                                  4,383 mL
                                                                  1,409 mL
   Blood products:
                                                                    194 mL
   Total out:
                                                                  7,978 mL
                                                                  1,628 mL
   Urine:
                                                                     36 mL
                                                                     35 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,401 mL
                                                                   -219 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 212 (212 - 212) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 14 cmH2O
   Plateau: 11 cmH2O
   SpO2: 98%
   ABG: 7.49/34/115/23/3
   Ve: 8.2 L/min
   PaO2 / FiO2: 287
   Physical Examination
   GEN: INTUBATED, UNRESPONSIVE, EYES OPEN
   HEENT: ET tube in place
   CHEST: CTA B
   CV: RRR, no murmur
   NEURO: NOT WITHDRAWIANG TO PAIN, PERRLA,
   EXT: ANASARCA PERSISTS
   Labs / Radiology
   27 K/uL
   9.3 g/dL
   136 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.7 mEq/L
   20 mg/dL
   98 mEq/L
   131 mEq/L
   25.0 %
   0.1 K/uL
        [image002.jpg]
                             [**2145-6-21**]  10:27 PM
                             [**2145-6-22**]  03:12 AM
                             [**2145-6-22**]  04:25 AM
                             [**2145-6-22**]  03:40 PM
                             [**2145-6-22**]  04:17 PM
                             [**2145-6-22**]  09:03 PM
                             [**2145-6-22**]  10:03 PM
                             [**2145-6-22**]  11:52 PM
                             [**2145-6-23**]  03:44 AM
                             [**2145-6-23**]  04:46 AM
   WBC
   0.1
   0.1
   Hct
   24.1
   24.6
   25.0
   Plt
   32
   14
   31
   27
   Cr
   0.7
   0.8
   TCO2
   25
   27
   26
   27
   27
   Glucose
   133
   152
   167
   136
   Other labs: PT / PTT / INR:15.3/32.4/1.4, ALT / AST:73/101, Alk Phos /
   T Bili:148/5.6, Amylase / Lipase:27/15, Differential-Neuts:70.0 %,
   Band:0.0 %, Lymph:10.0 %, Mono:20.0 %, Eos:0.0 %, Fibrinogen:338 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:414 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.7 mg/dL
   Tacrolimus- pending
   Ionzied Ca 1.09
   CMV viral load
 not dedected
   Blood cx [**6-20**]:  pending
   Blood cx [**6-16**]: negative
   Blood cx [**6-15**]: negative
   Blood cx [**6-14**]: enterococcus
   Assessment and Plan
 TRANSPLANT, BONE MARROW (BMT)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-15**], thought secondary to volume
 DELIRIUM / CONFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Anuric; temporary HD line placed [**6-15**]
 BACTEREMIA
   VRE bacteremia; on linezolid
 NEUTROPENIA
   On cefepime, flagyl, micafungin, linezolid
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   S/p allo double cord SCT [**2145-5-28**]
 TACHYCARDIA, OTHER
   In setting of adrenergic state, milrinone
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   EF severely depressed on echo [**6-15**] (25-30%); on milrinone
 ALKALOSIS, RESPIRATORY
   A 69 yo lady with AML s/p 7+3 induction, DCB allo transplant with
   cardiac and renal failure resulting in hypervolemia and subsequent
   respiratory failure requiring intubaion and worsening mental status.
   HYPOXIC RESPIRATORY FAILURE: Intubated for hypoxia and altered mental
   status.  She remains fluid overloaded from heart and renal failure.
   Her respiratory issues will not likely resolve until these issues are
   resolved.
   - Continue vent on CMV assist
   - CVVH with goal fluid removal
   HYPOTENSION/ Cardioenic Shock mixed with diffuse inflammatory response
   from engraftment causing mixed cardiogenic and distributive shock.
   Improved with steriods and afib control. Weaned off milrinone, still on
   phenylephrine
   - wean phenylephrine, goal SBP >80
   - Continuing Methylprenisolone 40mg IV BID, discuss duration with BMT.
   VRE BACTEREMIA:  Continues to be neutropenic, not clearly septic. Will
   need return of counts. Enterococcus bacterimia seen last on [**6-14**].
   -  Linezolid for VRE
   - Surveillance Cultures if febrile or unstable
   - awaiting results of TTE, consider TEE to r/o endocariditis
   - ID recs
   - will d/c flagyl since no clear indication
   PANCYTOPENIA: WBC stable at 0.1. Given 1 unit of plts. Hct of 24.1
   today, however, trying to remove fluid with CVVH, and no current sign
   of bleeding. Due to AMS and neutropenia was started on flagyl,
   micafungin, cefepime, and linezolid
   - continue on mica, cefe, and linezolid until counts improve for 2 week
   course
   - BMT recs
   - monitor ANC
   - on filgrastim per BMT recs
   - will transfuse platelets >20, or greater when procedures are
   contemplated;
   - transfuse Hct >24 or unstable
   - recheck PM hct
   ATRIAL FIBRILLATION: In sinus rhythm while on Amiodarone.
   Bioavailabilty of po is half of IV. Possible drug interaction with
   tacro, boosting tacro levels.
   - continue 0.25mg/min for seven days, (last day [**2145-6-25**]), then discuss
   with cards PO dosing or decreased IV dose.
   - Holding metoprolol while on amiodarone.
   ACUTE RENAL FAILURE: Granular casts indicate ATN, direct renal injury
   from ? chemotherapy, poor forward flow.
   -Continue CVVH as tolerated by BP
   - goal negative 1 liter today
   AML: Continuing post-allo transplant protocol per BMT recommendations.
   - Hold tacrolimus per BMT, once tacro levels dip, may need transmucosal
   preparation per BMT
   - continue Methylprednisolone
   - continue CellCept
   - BMT recs
   TRANSAMINITIS: T. Bili trending up with other LFTs resolving, concern
   for hemolysis from CVVH versus intra hepatic/cholestatic process. RUQ
   U/S  non-diagnostic Also high tube feed residuls, concern for
   obstruction
   - trend further, CT if worsening
   - checking KUB for obstruction
   ALTERED MENTAL STATUS:  Prior to intubation the patient was altered in
   excess of her baseline anxiety.  Differential diagnosis includes
   bacteremia, sepsis, renal failure/uremia, underlying malignancy, med
   effect, delerium of the critically ill.
   - medical management of precipitating causes
   - would hold off on antipsychotics for now
   - decreased sedation to see if more responsive
   HYPONATREMIA: Na was 127, now at 130, been stable for last several
   days, but lower then baseline. Likely secondary to hypervolemia
   hyponatremia
   - monitor [**Hospital1 7**] Na
   - correct with CVVH
   ICU Care
   Nutrition: HIGH RESIDUALS, NOT TOLERATING TUBE FEEDS, was not on TPN,
   secondary to access issues initally and transaminitis can be
   readdressed if stil not tolearting tube feeds
   Glycemic Control:  Lantus 10 units, plus SSI
   Lines:
   Multi Lumen - [**2145-6-15**] 03:54 AM
   Arterial Line - [**2145-6-15**] 08:00 PM
   Dialysis Catheter - [**2145-6-15**] 08:00 PM
   Prophylaxis:
   DVT: BOOTS
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-06-24 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - TEE today
   - stopped amiodarone
   - restarted TFs
   - tried to wean off sedation, but pt agitated, tachycardic, so
   restarted
   - renal - continue CVVH, not ready to change to HD
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2145-6-22**] 12:10 PM
   Acyclovir - [**2145-6-22**] 01:10 PM
   Linezolid - [**2145-6-23**] 08:04 PM
   Cefipime - [**2145-6-23**] 10:22 PM
   Micafungin - [**2145-6-24**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-6-23**] 05:21 PM
   Haloperidol (Haldol) - [**2145-6-23**] 08:00 PM
   Midazolam (Versed) - [**2145-6-24**] 03:27 AM
   Fentanyl - [**2145-6-24**] 03:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-24**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (96.9
   HR: 97 (81 - 113) bpm
   BP: 134/80(104) {90/58(70) - 137/84(108)} mmHg
   RR: 20 (10 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120.9 kg (admission): 123 kg
    CVP: 14 (9 - 16)mmHg
   Total In:
                                                                  3,357 mL
                                                                    524 mL
   PO:
   TF:
                                                                     10 mL
                                                                     12 mL
   IVF:
                                                                  3,347 mL
                                                                    252 mL
   Blood products:
                                                                    259 mL
   Total out:
                                                                  7,873 mL
                                                                     22 mL
   Urine:
                                                                     45 mL
                                                                     22 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,516 mL
                                                                    502 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 219 (219 - 536) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 15 cmH2O
   Plateau: 10 cmH2O
   SpO2: 99%
   ABG: 7.47/35/153/23/2
   Ve: 5.5 L/min
   PaO2 / FiO2: 383
   Physical Examination
   GEN: INTUBATED, UNRESPONSIVE, EYES OPEN
   HEENT: ET tube in place
   CHEST: CTA B
   CV: RRR, no murmur
   NEURO: NOT WITHDRAWIANG TO PAIN, PERRLA,
   EXT: ANASARCA PERSISTS
   Labs / Radiology
   11 K/uL
   10.2 g/dL
   166
   1.0 mg/dL
   23 mEq/L
   3.6 mEq/L
   28 mg/dL
   97 mEq/L
   129 mEq/L
   27.3 %
   0.1 K/uL
        [image002.jpg]
                             [**2145-6-22**]  09:03 PM
                             [**2145-6-22**]  10:03 PM
                             [**2145-6-22**]  11:52 PM
                             [**2145-6-23**]  03:44 AM
                             [**2145-6-23**]  04:46 AM
                             [**2145-6-23**]  09:25 AM
                             [**2145-6-23**]  03:07 PM
                             [**2145-6-24**]  03:39 AM
                             [**2145-6-24**]  04:37 AM
                             [**2145-6-24**]  06:00 AM
   WBC
   0.1
   0.1
   Hct
   24.6
   25.0
   27.3
   Plt
   14
   31
   27
   11
   Cr
   0.8
   1.0
   TCO2
   27
   27
   27
   26
   26
   Glucose
   167
   136
   180
   166
   Other labs: PT / PTT / INR:14.6/29.2/1.3, ALT / AST:89/133, Alk Phos /
   T Bili:228/5.6, Amylase / Lipase:27/15, Differential-Neuts:0.0 %,
   Band:0.0 %, Lymph:80.0 %, Mono:20.0 %, Eos:0.0 %, Fibrinogen:338 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:478 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   ANC 0
   Tacrolimus Pending
   Lactate 0.9
   Ionized Ca 1.12
   Last Postitive blood cx on [**6-14**] for VRE
   Assessment and Plan
   69F w AML s/p 7+3 induction, DCB allo transplant with cardiac and renal
   failure resulting in hypervolemia and subsequent respiratory failure
   requiring intubaion and worsening mental status.
   # HYPOXIC RESPIRATORY FAILURE: Intubated for hypoxia and altered mental
   status.  She remains fluid overloaded from heart and renal failure.
   Her respiratory issues will not likely resolve until these issues are
   resolved.
   - Vent mode switched to pressure support
   - CVVH with goal fluid removal
   - d/w renal possible HD
   # HYPOTENSION: Cardioenic Shock mixed with diffuse inflammatory
   response from engraftment causing mixed cardiogenic and distributive
   shock. Improved with steriods and afib control. Weaned off
   milrinone/phenylephrine.
   - Continuing Methylprenisolone 40mg IV BID, discuss duration with BMT.
   # VRE BACTEREMIA: Continues to be neutropenic, not clearly septic. Will
   need return of counts. Enterococcus bacterimia seen last on [**6-14**].
   - Linezolid for VRE
   - surveillance cxs if febrile or unstable
   - awaiting results of TTE, consider TEE to r/o endocariditis
   - ID recs
   # PANCYTOPENIA: WBC stable at 0.1. Given 1 unit of plts. Hct of 25
   today, however, trying to remove fluid with CVVH, and no current sign
   of bleeding. Due to AMS and neutropenia was started on flagyl,
   micafungin, cefepime, and linezolid
   - continue on mica, cefe, and linezolid until counts improve for 2 week
   course
   - BMT recs
   - monitor ANC
   - on filgrastim per BMT recs
   - will transfuse platelets <20, or greater when procedures are
   contemplated;
   - transfuse Hct >24 or unstable
   # ATRIAL FIBRILLATION: In sinus rhythm while on Amiodarone.
   Bioavailabilty of po is half of IV. Possible drug interaction with
   tacro, boosting tacro levels.
   - continue 0.25mg/min for seven days, (last day [**2145-6-25**]), then discuss
   with cards PO dosing or decreased IV dose.
   - d/w cards stopping amiodarone
   - Holding metoprolol while on amiodarone.
   # ACUTE RENAL FAILURE: Granular casts indicate ATN, direct renal injury
   from ? chemotherapy, poor forward flow.
   - Continue CVVH as tolerated by BP
   - Consider HD
   - Goal negative 1 liter today
   # AML: Continuing post-allo transplant protocol per BMT
   recommendations.
   - Hold tacrolimus per BMT, once tacro levels dip, may need transmucosal
   preparation per BMT
   - continue Methylprednisolone
   - continue CellCept
   - BMT recs
   # TRANSAMINITIS: T. Bili trending up with other LFTs resolving, concern
   for hemolysis from CVVH versus intra hepatic/cholestatic process. RUQ
   U/S  non-diagnostic Also high tube feed residuls, concern for
   obstruction
   - trend further, CT if worsening
   # ALTERED MENTAL STATUS:  Prior to intubation the patient was altered
   in excess of her baseline anxiety.  Differential diagnosis includes
   bacteremia, sepsis, renal failure/uremia, underlying malignancy, med
   effect, delerium of the critically ill.
   - medical management of precipitating causes
   - would hold off on antipsychotics for now
   - decreased sedation to see if more responsive
   - d/c fentanyl for now
   - d/w neuro
   # HYPONATREMIA: Na was 127, now at 131, has been stable for last
   several days, but lower then baseline. Likely secondary to hypervolemic
   hyponatremia
   - monitor [**Hospital1 7**] Na
   - correct with CVVH
   ICU Care
   Nutrition: HIGH RESIDUALS, NOT TOLERATING TUBE FEEDS, was not on TPN,
   secondary to access issues initally and transaminitis can be
   readdressed if stil not tolearting tube feeds
   Glycemic Control:  Lantus 10 units, plus SSI
   Lines:
   Multi Lumen - [**2145-6-15**] 03:54 AM
   Arterial Line - [**2145-6-15**] 08:00 PM
   Dialysis Catheter - [**2145-6-15**] 08:00 PM
   Prophylaxis:
   DVT: BOOTS
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-06-25 07:41:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - renal to restart CVVH in evening [**6-24**], will run for 48 hrs before
   starting HD
   - TEE without endocarditis
   - given 1 unit of plts, afterwards plts of 60
   - MR done in evening of brain, had lower magnetic protocol due to valve
   - Haldol dose increased
   - bridging tube feeds with TPN, need to contact IR about post pyloric
   tube placement
   - HHV6 and EBV panels sent per BMT
   - Afib reoccured, started on metoprolol
   - PO2 decreased to 60s with trip to MRI- FiO2 increased to 50%
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Metronidazole - [**2145-6-22**] 12:10 PM
   Acyclovir - [**2145-6-22**] 01:10 PM
   Linezolid - [**2145-6-24**] 07:58 PM
   Cefipime - [**2145-6-24**] 09:00 PM
   Micafungin - [**2145-6-25**] 03:26 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Midazolam (Versed) - 2 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2145-6-25**] 01:15 AM
   Fentanyl - [**2145-6-25**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-25**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 34.4
C (94
   HR: 59 (59 - 118) bpm
   BP: 113/72(84) {101/61(72) - 153/106(118)} mmHg
   RR: 12 (6 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 120.9 kg (admission): 123 kg
    CVP: 21 (10 - 22)mmHg
   Total In:
                                                                  2,521 mL
                                                                  1,472 mL
   PO:
   TF:
                                                                    164 mL
                                                                    198 mL
   IVF:
                                                                  1,606 mL
                                                                    897 mL
   Blood products:
                                                                    467 mL
   Total out:
                                                                     69 mL
                                                                  3,098 mL
   Urine:
                                                                     69 mL
                                                                     26 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,452 mL
                                                                 -1,624 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 86 (86 - 86) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 13 cmH2O
   Plateau: 10 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/39/128/20/-2
   Ve: 9 L/min
   PaO2 / FiO2: 320
   Physical Examination
   GEN: INTUBATED, UNRESPONSIVE, EYES OPEN
   HEENT: ET tube in place
   CHEST: CTA B
   CV: RRR, no murmur
   NEURO: NOT WITHDRAWIANG TO PAIN, PERRLA,
   EXT: ANASARCA PERSISTS
   Labs / Radiology
   23 K/uL
   10.2 g/dL
   202 mg/dL
   1.2 mg/dL
   20 mEq/L
   4.4 mEq/L
   36 mg/dL
   98 mEq/L
   130 mEq/L
   27.3 %
   0.1 K/uL
        [image002.jpg]
                             [**2145-6-23**]  03:07 PM
                             [**2145-6-24**]  03:39 AM
                             [**2145-6-24**]  04:37 AM
                             [**2145-6-24**]  06:00 AM
                             [**2145-6-24**]  08:06 AM
                             [**2145-6-25**]  12:27 AM
                             [**2145-6-25**]  12:47 AM
                             [**2145-6-25**]  02:25 AM
                             [**2145-6-25**]  05:34 AM
                             [**2145-6-25**]  05:49 AM
   WBC
   0.1
   Hct
   27.3
   27.3
   Plt
   11
   66
   23
   Cr
   1.0
   1.2
   TCO2
   26
   26
   23
   23
   23
   Glucose
   180
   166
   255
   202
   Other labs: PT / PTT / INR:13.7/29.2/1.2, ALT / AST:83/110, Alk Phos /
   T Bili:234/5.0, Amylase / Lipase:27/15, Differential-Neuts:0.0 %,
   Band:0.0 %, Lymph:80.0 %, Mono:20.0 %, Eos:0.0 %, Fibrinogen:338 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:637 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 TRANSPLANT, BONE MARROW (BMT)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-15**], thought secondary to volume
 DELIRIUM / CONFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Anuric; temporary HD line placed [**6-15**]
 BACTEREMIA
   VRE bacteremia; on linezolid
 NEUTROPENIA
   On cefepime, flagyl, micafungin, linezolid
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   s/p allo double cord SCT [**2145-5-28**]
 TACHYCARDIA, OTHER
   In setting of adrenergic state, milrinone
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   EF severely depressed on echo [**6-15**] (25-30%); on milrinone
 ALKALOSIS, RESPIRATORY
   69F w AML s/p 7+3 induction, DCB allo transplant with cardiac and renal
   failure resulting in hypervolemia and subsequent respiratory failure
   requiring intubaion and worsening mental status.
   # HYPOXIC RESPIRATORY FAILURE: Intubated for hypoxia and altered mental
   status.  She remains fluid overloaded from heart and renal failure.
   Her respiratory issues will not likely resolve until these issues are
   resolved.
   - attempting to transition to haloperidone from sedation
   - Vent mode switched to pressure support
   - CVVH with goal of large volume fluid removal
   # HYPOTENSION: Cardiogenic shock mixed with diffuse inflammatory
   response from engraftment causing mixed cardiogenic and distributive
   shock. Improved with steroids and afib control. Weaned off
   milrinone/phenylephrine.
   - Continuing Methylprenisolone 40mg IV BID, discuss duration with BMT.
   # VRE BACTEREMIA: Continues to be neutropenic, not clearly septic. Will
   need return of counts. Enterococcus bacteremia seen last on [**6-14**].
   - Linezolid for VRE (abx-course depends on ? endocarditis)
   - surveillance cxs if febrile or unstable
   - TEE today to eval for endocarditis
   - ID recs
   # PANCYTOPENIA: WBC stable at 0.1. Given 1 unit of plts. Hct of 25
   today, however, trying to remove fluid with CVVH, and no current sign
   of bleeding. Due to AMS and neutropenia was started on flagyl,
   micafungin, cefepime, and linezolid
   - continue on mica, cefe, and linezolid until counts improve for 2 week
   course
   - BMT recs
   - monitor ANC
   - on filgrastim per BMT recs
   - will transfuse platelets <20, or greater when procedures are
   contemplated;
   - transfuse Hct >24 or unstable
   # ATRIAL FIBRILLATION: In sinus rhythm while on Amiodarone, stopped due
   to interaction w tacro. Currently in SR off amiodarone.
   - monitor on telemetry
   # ACUTE RENAL FAILURE: Granular casts indicate ATN, direct renal injury
   from ? chemotherapy, poor forward flow.
   - Continue CVVH as tolerated by BP
   - Consider HD
   # AML: Continuing post-allo transplant protocol per BMT
   recommendations.
   - continue Methylprednisolone
   - continue CellCept
   - BMT recs
   # TRANSAMINITIS: T. Bili trending up with other LFTs resolving, concern
   for hemolysis from CVVH versus intra hepatic/cholestatic process. RUQ
   U/S  non-diagnostic Also high tube feed residuls, concern for
   obstruction
   - trend further, CT if worsening
   # ALTERED MENTAL STATUS: Ddx includes bacteremia, sepsis, renal
   failure/uremia, underlying malignancy, med effect, delerium of the
   critically ill.
   - medical management of precipitating causes
   - MRI brain w/o contrast to eval for acute processes
   - transition to antipsychotics from sedation
   # HYPONATREMIA: Na in the high 120s, has been stable for last several
   days, but lower then baseline. Likely secondary to hypervolemic
   hyponatremia
   - monitor [**Hospital1 7**] Na
   - correct with CVVH
   ICU Care
   Nutrition:
   TPN without Lipids - [**2145-6-24**] 05:55 PM 41.[**Telephone/Fax (3) 3450**] mL/hour
   Vivonex (Full) - [**2145-6-25**] 04:14 AM 29.[**Telephone/Fax (3) 7997**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-6-15**] 03:54 AM
   Arterial Line - [**2145-6-15**] 08:00 PM
   Dialysis Catheter - [**2145-6-15**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-06-26 07:20:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Progress Note
   24 Hour Events:
   - on CVVH w fluid-removal
   - increased haloperidol, weaning sedation to assess neuro function
   - increased bowel regimen
   - ID recs: switched to dapsone, will need to continue for 2 weeks
   following count recovery
   - MRI final: 1. No acute infarction. 2. Diffuse bilateral mastoid air
   cells disease, mucosal thickening and/or fluid and also in the
   pneumatized petrous apices. 3. The left internal carotid artery flow
   void in the carotid canal is not clearly identifiable.
   - Ordered EEG
   - Hoping to get LP by IR Sat - will need to send HHV6, EBV, CMV, viral
   loads
   - Patient has brief periods of tachypnea (last < 1 minute)
 appeared
   uncomfortable had to be replaced on Versed.
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Micafungin - [**2145-6-25**] 03:26 AM
   Linezolid - [**2145-6-25**] 08:20 AM
   Daptomycin - [**2145-6-25**] 06:06 PM
   Cefipime - [**2145-6-25**] 10:17 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-6-25**] 06:25 PM
   Fentanyl - [**2145-6-26**] 04:00 AM
   Midazolam (Versed) - [**2145-6-26**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-26**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.2
C (95.4
   HR: 93 (58 - 116) bpm
   BP: 150/90(116) {88/50(64) - 169/115(139)} mmHg
   RR: 19 (11 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120.7 kg (admission): 123 kg
    CVP: 12 (12 - 14)mmHg
   Total In:
                                                                  5,448 mL
                                                                  1,722 mL
   PO:
   TF:
                                                                    534 mL
                                                                    211 mL
   IVF:
                                                                  3,323 mL
                                                                  1,069 mL
   Blood products:
                                                                    219 mL
   Total out:
                                                                 10,745 mL
                                                                  3,894 mL
   Urine:
                                                                     50 mL
                                                                     18 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,297 mL
                                                                 -2,168 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 12 cmH2O
   SpO2: 97%
   ABG: 7.51/26/106/19/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 265
   Physical Examination
   GEN: INTUBATED, UNRESPONSIVE, EYES OPEN
   HEENT: ET tube in place
   CHEST: CTA B
   CV: RRR, no murmur
   NEURO: NOT WITHDRAWIANG TO PAIN, PERRLA,
   EXT: ANASARCA PERSISTS
   Labs / Radiology
   36 K/uL
   11.1 g/dL
   257 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.9 mEq/L
   30 mg/dL
   99 mEq/L
   129 mEq/L
   30.9 %
   0.1 K/uL
        [image002.jpg]
                             [**2145-6-25**]  05:49 AM
                             [**2145-6-25**]  11:45 AM
                             [**2145-6-25**]  11:54 AM
                             [**2145-6-25**]  03:16 PM
                             [**2145-6-25**]  05:34 PM
                             [**2145-6-25**]  05:50 PM
                             [**2145-6-25**]  10:58 PM
                             [**2145-6-25**]  11:25 PM
                             [**2145-6-26**]  05:44 AM
                             [**2145-6-26**]  05:51 AM
   WBC
   0.1
   Hct
   29.7
   30.9
   Plt
   17
   80
   36
   Cr
   1.1
   0.9
   TCO2
   23
   26
   25
   22
   21
   Glucose
   [**Telephone/Fax (3) 8018**]57
   Other labs: PT / PTT / INR:13.3/29.2/1.1, ALT / AST:101/138, Alk Phos /
   T Bili:379/5.9, Amylase / Lipase:27/15, Differential-Neuts:50.0 %,
   Band:0.0 %, Lymph:50.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:338 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:734 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 TRANSPLANT, BONE MARROW (BMT)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Intubated [**6-15**], thought secondary to volume
 DELIRIUM / CONFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Anuric; temporary HD line placed [**6-15**]
 BACTEREMIA
   VRE bacteremia; on linezolid
 NEUTROPENIA
   On cefepime, flagyl, micafungin, linezolid
 PULMONARY EDEMA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   s/p allo double cord SCT [**2145-5-28**]
 TACHYCARDIA, OTHER
   69F w AML s/p 7+3 induction and double cord allo SCT (5/8/9) with
   cardiac and renal failure resulting in hypervolemia and subsequent
   respiratory failure requiring intubation and worsening mental status.
   # HYPOXIC RESPIRATORY FAILURE: hypoxemia for volume overload and AMS on
   [**6-15**]. Fluid overload [**2-22**] acute sCHF and ARF.
   - continue mech ventilation on pressure support
   - attempting to decrease sedation and transition to haloperidol
   - check EKG daily while on haloperidol
   - volume removal by CVVH to improve respiratory status
   # ACUTE SYSTOLIC CHF: likely [**2-22**] chemotherapy. LVEF 55% at baseline,
   but decreased to 25-30% w chemo, now w some recovery
 LVEF 40% on TTE
   [**6-22**].
   - continue fluid removal w CVVH
   - will need repeat TTE in future to reassess heart fxn
   # ACUTE RENAL FAILURE: likely ATN from hypotension/poor forward flow
   (given granular casts) vs direct renal injury from chemotherapy. Pt
   anuric; temporary HD line placed [**6-15**].
   - continue fluid removal w CVVH
   - plan to switch to HD
   # BACTEREMIA: VRE bacteremia seen last on [**6-14**], also h/o E. coli
   bacteremia [**6-3**]. TEE [**6-24**] negative for endocarditis. Currently
   neutropenic (ANC = 0).
   - dapsone for VRE, cefepime for GNR
 course to continue for 2 weeks
   after normal ANC
   - surveillance cxs if febrile or unstable
   - ID recs
   # PANCYTOPENIA: [**2-22**] chemotherapy.  ANC=0, neutropenic. Plts dropping.
   Hct ~27.
   - linezolid for VRE, cefepime for GNR
 course to continue for 2 weeks
   after normal ANC
   - micafungin for fungal ppx
   - filgrastim for bone marrow stimulation
   - monitor ANC, Hct, PLTs daily
   - will transfuse platelets <20, or greater when procedures are
   contemplated;
   - transfuse Hct <24 or unstable
   - neutropenic precautions
   - BMT recs
   # ALTERED MENTAL STATUS: Unclear etiology. DDx includes bacteremia,
   sepsis, renal failure/uremia, underlying malignancy, med effect,
   delerium of the critically ill.
   - medical management of precipitating causes
   - f/u MRI brain w/o contrast to eval for acute processes
   - transition to antipsychotics from sedation, check daily EKG w
   haloperidol
   - consider neuro c/s if no improvement
   # ATRIAL FIBRILLATION: paroxysmal, likely [**2-22**] stress of acute illness.
   S/p amiodarone, stopped b/c interaction w tacrolimus
   - started on metoprolol, uptitrate PRN as tolerated
   - monitor on telemetry
   # AML: s/p dbl cord SCT on [**5-28**]/9
   - continue methylprednisolone
   - continue MMF (CellCept)
   - BMT recs
   # HYPONATREMIA: normal at baseline, likely [**2-22**] heart, kidney and liver
   failure w resulting hypervolemic hyponatremia
   - monitor Na daily
   - correct with CVVH
   # TRANSAMINITIS: hemolysis from CVVH vs intra hepatic/cholestatic
   process. RUQ U/S  non-diagnostic Also high tube feed residuls, concern
   for obstruction
   - cont to trend, CT if worsening
   # HYPOTENSION: On transfer to ICU, pt had mixed mixed cardiogenic and
   distributive shock. Cardiogenic shock [**2-22**] to heart failure from chemo.
   Distributive shock from possible GNR/VRE bacteremia/sepsis. Worsened w
   episodes of afib. Weaned off milrinone/phenylephrine. Pressures have
   now improved.
   - continuing methylprenisolone 40mg IV BID
   In setting of adrenergic state, milrinone
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2145-6-25**] 06:31 PM 58.[**Telephone/Fax (5) 2887**] mL/hour
   Vivonex (Full) - [**2145-6-26**] 12:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-6-15**] 03:54 AM
   Arterial Line - [**2145-6-15**] 08:00 PM
   Dialysis Catheter - [**2145-6-15**] 08:00 PM
   Prophylaxis:
   DVT: no SQ Heparin, pneumoboots
   Stress ulcer:  pantoprazole IV
   Communication:  Comments:  through BMT
   Code status: Full code

2145-06-27 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2145-6-26**] 09:00 AM
 LUMBAR PUNCTURE - At [**2145-6-26**] 04:45 PM
 EKG - At [**2145-6-26**] 10:00 PM
   - ID: check CK qweekly while on daptomycin, restart acyclovir ppx
   - renal: cont CVVH w goal of 400cc/hr fluid removal, plan for HD on
   Monday
   - BMT: no new recs
   - Mental status: LP attempted at bedside - unsuccessful, plan for neuro
   IR procedure on Monday (need to be paged on Sunday)
   - EEG 20-min run done
   - SBP down to 80s, bounced back to 120s w 500cc bolus
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Linezolid - [**2145-6-25**] 08:20 AM
   Daptomycin - [**2145-6-25**] 06:06 PM
   Cefipime - [**2145-6-26**] 10:07 PM
   Micafungin - [**2145-6-27**] 04:02 AM
   Acyclovir - [**2145-6-27**] 06:03 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-6-26**] 08:20 PM
   Haloperidol (Haldol) - [**2145-6-26**] 08:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-27**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.2
C (95.4
   HR: 70 (61 - 104) bpm
   BP: 140/77(104) {85/52(62) - 158/98(122)} mmHg
   RR: 16 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115.8 kg (admission): 123 kg
    CVP: 14 (12 - 353)mmHg
   Total In:
                                                                  5,670 mL
                                                                  1,246 mL
   PO:
   TF:
                                                                    783 mL
                                                                      4 mL
   IVF:
                                                                  3,611 mL
                                                                  1,242 mL
   Blood products:
   Total out:
                                                                 13,921 mL
                                                                  1,570 mL
   Urine:
                                                                     34 mL
                                                                     15 mL
   NG:
                                                                     40 mL
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                 -8,251 mL
                                                                   -324 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/38/179/22/1
   Ve: 5.2 L/min
   PaO2 / FiO2: 447
   Physical Examination
   GEN: INTUBATED, UNRESPONSIVE, EYES OPEN
   HEENT: ET tube in place
   CHEST: CTA B
   CV: RRR, no murmur
   NEURO: NOT WITHDRAWIANG TO PAIN, PERRLA,
   EXT: ANASARCA PERSISTS
   Labs / Radiology
   19 K/uL
   9.4 g/dL
   199 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   29 mg/dL
   95 mEq/L
   130 mEq/L
   25.9 %
   0.1 K/uL
        [image002.jpg]
                             [**2145-6-25**]  11:25 PM
                             [**2145-6-26**]  05:44 AM
                             [**2145-6-26**]  05:51 AM
                             [**2145-6-26**]  12:05 PM
                             [**2145-6-26**]  07:01 PM
                             [**2145-6-26**]  07:05 PM
                             [**2145-6-26**]  10:36 PM
                             [**2145-6-27**]  12:13 AM
                             [**2145-6-27**]  06:09 AM
                             [**2145-6-27**]  06:21 AM
   WBC
   0.1
   Hct
   30.9
   25.8
   25.9
   Plt
   36
   22
   23
   19
   Cr
   0.9
   0.8
   TCO2
   22
   21
   23
   26
   26
   Glucose
   257
   199
   Other labs: PT / PTT / INR:13.3/29.2/1.1, CK / CKMB / Troponin-T:70//,
   ALT / AST:101/138, Alk Phos / T Bili:379/5.9, Amylase / Lipase:27/15,
   Differential-Neuts:50.0 %, Band:0.0 %, Lymph:50.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:338 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.9
   g/dL, LDH:734 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   69F w AML s/p 7+3 induction and double cord allo SCT (5/8/9) with
   cardiac and renal failure resulting in hypervolemia and subsequent
   respiratory failure requiring intubation and worsening mental status.
   # HYPOXIC RESPIRATORY FAILURE: hypoxemia for volume overload and AMS on
   [**6-15**]. Fluid overload [**2-22**] acute sCHF and ARF.
   - continue mech ventilation on pressure support
   - attempting to decrease sedation and transition to haloperidol
   - check EKG daily while on haloperidol
   - volume removal by CVVH to improve respiratory status
   # ACUTE SYSTOLIC CHF: likely [**2-22**] chemotherapy. LVEF 55% at baseline,
   but decreased to 25-30% w chemo, now w some recovery
 LVEF 40% on TTE
   [**6-22**].
   - continue fluid removal w CVVH
   - will need repeat TTE in future to reassess heart fxn
   # ACUTE RENAL FAILURE: likely ATN from hypotension/poor forward flow
   (given granular casts) vs direct renal injury from chemotherapy. Pt
   anuric; temporary HD line placed [**6-15**].
   - continue fluid removal w CVVH
   - plan to switch to HD on Monday
   # BACTEREMIA: VRE bacteremia seen last on [**6-14**], also h/o E. coli
   bacteremia [**6-3**]. TEE [**6-24**] negative for endocarditis. Currently
   neutropenic.
   - daptomycin for VRE, cefepime for GNR
 course to continue for 2 weeks
   after normal ANC
   - surveillance cxs if febrile or unstable
   - ID recs
   # PANCYTOPENIA: [**2-22**] chemotherapy. Stopped linezolid on [**6-25**] due to bone
   marrow toxicity
   - daptomycin  for VRE, cefepime for GNR
 course to continue for 2
   weeks after normal ANC
   - micafungin for fungal ppx
   - filgrastim for bone marrow stimulation
   - monitor ANC, Hct, PLTs daily
   - will transfuse platelets <20, or greater when procedures are
   contemplated;
   - transfuse Hct <24 or unstable
   - neutropenic precautions
   - BMT recs
   # ALTERED MENTAL STATUS: Unclear etiology. DDx includes bacteremia,
   sepsis, renal failure/uremia, underlying malignancy, med effect,
   delerium of the critically ill. MRI brain w/o contrast [**6-24**]
   ?mastoiditis, otherwise unremarkable.
   - LP to evaluate CSF
   - transition to antipsychotics from sedation, check daily EKG w
   haloperidol
   - consider neuro c/s if no improvement
   # ATRIAL FIBRILLATION: paroxysmal, likely [**2-22**] stress of acute illness.
   S/p amiodarone, stopped b/c interaction w tacrolimus. Currently in
   sinus rhythm.
   - started on metoprolol, uptitrate PRN as tolerated
   - monitor on telemetry
   # AML: s/p dbl cord SCT on [**5-28**]/9
   - continue methylprednisolone
   - continue MMF (CellCept)
   - BMT recs
   # HYPONATREMIA: normal at baseline, likely [**2-22**] heart, kidney and liver
   failure w resulting hypervolemic hyponatremia
   - monitor Na daily
   - correct with CVVH
   # TRANSAMINITIS: hemolysis from CVVH vs intra hepatic/cholestatic
   process. RUQ U/S  non-diagnostic Also high tube feed residuls, concern
   for obstruction
   - cont to trend, CT if worsening
   # HYPOTENSION: On transfer to ICU, pt had mixed mixed cardiogenic and
   distributive shock. Cardiogenic shock [**2-22**] to heart failure from chemo.
   Distributive shock from possible GNR/VRE bacteremia/sepsis. Worsened w
   episodes of afib. Weaned off milrinone/phenylephrine. Pressures have
   now improved.
   - continuing methylprenisolone 40mg IV BID
   In setting of adrenergic state, milrinone
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2145-6-25**] 06:31 PM 58.[**Telephone/Fax (5) 2887**] mL/hour
   Vivonex (Full) - [**2145-6-26**] 12:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-6-15**] 03:54 AM
   Arterial Line - [**2145-6-15**] 08:00 PM
   Dialysis Catheter - [**2145-6-15**] 08:00 PM
   Prophylaxis:
   DVT: no SQ Heparin, pneumoboots
   Stress ulcer:  pantoprazole IV
   Communication:  Comments:  through BMT
   Code status: Full code

2145-06-28 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Renal recs- continue UF and CVVH, with goal 400ml/hr
   - ID Recs- continue dapto, cefepime for 2 weeks once ANC>500
   - LP with for HHV6, EBV, CMV, viral loads, tomorrow by IR, need to page
   IR fellow in AM-[**Numeric Identifier 8051**] (Now cancelled since pt would need to go West)
   - Holding TPN, tube feeds up to 20/hr, will have IR place post pyloric
   tube placed tomorrow
   - BMT Recs: Considering adjusting steroids (from Methylprednisolone
   40mg IV BID to 20mg IV BID)
   - Metoprolol to hold on HD days to max UF
   - Tacro to be dosed daily
   - 1:30 AM, BP to 160s, HR in low 100s, gave metoprolol 25mg early
   - 3-4AM, BP in 80s, Brief runs of HR Afib in 120s, slowed UF to even,
   and gave 500ml bolus (was -6L at midnight), and BP improved to 100s and
   HR to 90s; shortly after required second 500ml bolus.
   - 5AM, BP dropped to low 70s, HR in 110s; fluid bolus of 500ml (3^rd
   overnight), no response. Initially started Neo, then required Levophed.
   BP improved. Continued IVF bolus of additional 1 liter, and gave unit
   of blood, repleted lytes.
   - Now weaned off Levophed, Neo.
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Linezolid - [**2145-6-25**] 08:20 AM
   Acyclovir - [**2145-6-27**] 05:00 PM
   Daptomycin - [**2145-6-27**] 06:12 PM
   Cefipime - [**2145-6-27**] 10:06 PM
   Micafungin - [**2145-6-28**] 04:05 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-6-27**] 06:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-28**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 111 (75 - 127) bpm
   BP: 102/53(74) {67/35(48) - 158/96(118)} mmHg
   RR: 16 (13 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.5 kg (admission): 123 kg
    CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  4,860 mL
                                                                  2,458 mL
   PO:
   TF:
                                                                    322 mL
                                                                    232 mL
   IVF:
                                                                  4,111 mL
                                                                  2,166 mL
   Blood products:
                                                                    228 mL
   Total out:
                                                                 10,800 mL
                                                                  2,241 mL
   Urine:
                                                                     26 mL
                                                                      8 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                 -5,940 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 14 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/31/130/20/0
   Ve: 11.8 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Physical Examination
   GEN: INTUBATED, UNRESPONSIVE, EYES OPEN
   HEENT: ET tube in place
   CHEST: CTA B
   CV: RRR, no murmur
   NEURO: PERRLA, NOT WITHDRAWIANG TO PAIN
   EXT: ANASARCA PERSISTS
   Labs / Radiology
   13 K/uL
   8.7 g/dL
   114 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.0 mEq/L
   19 mg/dL
   100 mEq/L
   131 mEq/L
   24.0 %
   0.1 K/uL
        [image002.jpg]
                             [**2145-6-27**]  12:13 AM
                             [**2145-6-27**]  06:09 AM
                             [**2145-6-27**]  06:21 AM
                             [**2145-6-27**]  11:30 AM
                             [**2145-6-27**]  02:26 PM
                             [**2145-6-27**]  05:30 PM
                             [**2145-6-27**]  05:34 PM
                             [**2145-6-27**]  11:59 PM
                             [**2145-6-28**]  05:00 AM
                             [**2145-6-28**]  05:22 AM
   WBC
   0.1
   Hct
   25.9
   25.6
   33
   24.0
   Plt
   19
   18
   42
   13
   Cr
   0.8
   0.7
   TCO2
   26
   26
   26
   25
   23
   Glucose
   77
   178
   114
   Other labs: PT / PTT / INR:13.2/26.6/1.1, CK / CKMB / Troponin-T:70//,
   ALT / AST:115/167, Alk Phos / T Bili:517/6.7, Amylase / Lipase:27/15,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:90.0 %, Mono:10.0 %,
   Eos:0.0 %, Fibrinogen:338 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.9
   g/dL, LDH:834 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   69F w AML s/p 7+3 induction and double cord allo SCT (5/8/9) with
   Cardiac and Renal failure that resulted in hypervolemia and subsequent
   respiratory failure requiring intubation and worsening mental status.
   Hypotensive and tachycardic (AF) overnight.
   # HYPOTENSION: Hypotensive and Tachycardic (AF with RVR) overnight. DDx
   includes Over-Diuresis, Sepsis, AF with RVR, Relative Adrenal
   Insufficiency, Cardiogenic Shock, Less likely tamponade, PE. Pt
   responsive to IVF overnight. Pt currently remains off pressors
   -          If unresponsive to IVF, will bolus 1-2L,  will likely
   restart Neo
   -          f/u renal recs
   -          Consider Cardioversion for AF
   -          Continuing methylprenisolone 20mg IV BID
   -          Cont Broad Spectrum Abx (Dapto, Linezolid, Cefepime,
   Micafungin), will discuss with ID Re: Abx expansion
   -          BCx, Sputum Cx, UCx
   -          Checking hemodynamic data: Repeat TTE, SVO2, ABG
   -          Consider repeat LP if hemodynamically stable.
    # ACUTE HYPOXIC RESPIRATORY FAILURE: Hypoxemic [**2-22**] volume overload and
   AMS on [**6-15**]. Fluid overload [**2-22**] acute sCHF and ARF.
   - continue mech ventilation on pressure support
   - attempting to decrease sedation and transition to haloperidol
   - Check EKG daily while on haloperidol
   - volume removal by CVVH to improve respiratory status
   # ACUTE SYSTOLIC CHF: Likely [**2-22**] chemotherapy. LVEF 55% at baseline,
   decreased to 25-30% w chemo, now w some recovery
 LVEF 40% on TTE [**6-22**].
   - continue fluid removal w CVVH
   - will need repeat TTE in future to reassess heart fxn
   # ACUTE RENAL FAILURE: Likely ATN from hypotension/poor forward flow
   (given granular casts) vs direct renal injury from chemotherapy. Pt
   anuric; temporary HD line placed [**6-15**].
   - continue fluid removal w CVVH
   - plan to switch to HD early next week
   # BACTEREMIA: VRE bacteremia seen last on [**6-14**], also h/o E. coli
   bacteremia [**6-3**]. TEE [**6-24**] negative for endocarditis. Currently
   neutropenic.
   - daptomycin for VRE, cefepime for GNR
 course to continue for 2 weeks
   after normal ANC
   - check weekly CK w daptomycin (baselin Ck = 70 on [**6-26**])
   - surveillance cxs if febrile or unstable
   - ID recs
   # PANCYTOPENIA: [**2-22**] chemotherapy. Stopped linezolid on [**6-25**] due to bone
   marrow toxicity
   - Daptomycin  for VRE, cefepime for GNR
 course to continue for 2
   weeks after normal ANC
   - micafungin for fungal ppx
   - filgrastim for bone marrow stimulation
   - monitor ANC, Hct, PLTs daily
   - will transfuse platelets <20, or greater when procedures are
   contemplated;
   - transfuse Hct <24 or unstable
   - neutropenic precautions
   - BMT recs
   # ALTERED MENTAL STATUS: Unclear etiology. DDx includes bacteremia,
   sepsis, renal failure/uremia, underlying malignancy, med effect,
   delerium of the critically ill. MRI brain w/o contrast [**6-24**]
   ?mastoiditis, otherwise unremarkable.
   - LP to evaluate CSF
   - transition to antipsychotics from sedation, check daily EKG w
   haloperidol
   - consider neuro c/s if no improvement
   # ATRIAL FIBRILLATION: paroxysmal, likely [**2-22**] stress of acute illness.
   S/p amiodarone, stopped b/c interaction w tacrolimus. Currently in
   sinus rhythm.
   - started on metoprolol, uptitrate PRN as tolerated
   - monitor on telemetry
   # AML: s/p dbl cord SCT on [**5-28**]/9
   - continue methylprednisolone
   - continue MMF (CellCept)
   - BMT recs
   # HYPONATREMIA: normal at baseline, likely [**2-22**] heart, kidney and liver
   failure w resulting hypervolemic hyponatremia
   - monitor Na daily
   - correct with CVVH
   # TRANSAMINITIS: hemolysis from CVVH vs intra hepatic/cholestatic
   process. RUQ U/S  non-diagnostic Also high tube feed residuls, concern
   for obstruction
   - cont to trend, CT if worsening
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2145-6-25**] 06:31 PM 58.[**Telephone/Fax (5) 2887**] mL/hour
   Vivonex (Full) - [**2145-6-26**] 12:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-6-15**] 03:54 AM
   Arterial Line - [**2145-6-15**] 08:00 PM
   Dialysis Catheter - [**2145-6-15**] 08:00 PM
   Prophylaxis:
   DVT: no SQ Heparin, pneumoboots
   Stress ulcer:  pantoprazole IV
   Communication:  Comments:  through BMT
   Code status: Full code

2145-06-28 09:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**6-27**]
   - Renal recs- contiue UF and CVVH, with goal 400ml/hr
   - ID recs- continue dapto, cefepime for 2 weeks once ANC>500
   - LP with for HHV6, EBV, CMV, viral loads, tomorrow by IR, need to page
   IR fellow in AM-[**Numeric Identifier 8051**]
   - holding TPN, tube feeds up to 20/hr, will have IR place post pyloric
   tube placed tomorrow
   - BMT recs, are considering adjusting steriods
   - Metoprolol to hold on HD days to max UF
   - Tacro to be dosed daily
   - 1:30 AM, BP to 160s, HR in low 100s, gave metoprolol 25mg early
   - 4AM, BP in 80s, HR afib in 120s, slowed UF to even, and gave 500ml
   bolus (was -6L at midnight), and BP improved to 100s and HR to 90s;
   shortly after required second 500ml bolus
   - 5AM, BP dropped to low 70s, HR in 110s; fluid bolus of 500ml, no
   response. Started neo, then required levophed. BP improved. Continued
   IVF bolus of additional 1 liter, and gave unit of blood, repleted lytes
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Daptomycin - [**2145-6-27**] 06:12 PM
   Cefipime - [**2145-6-27**] 10:06 PM
   Micafungin - [**2145-6-28**] 04:05 AM
   Acyclovir - [**2145-6-28**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-6-27**] 06:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-28**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.6
   HR: 113 (77 - 127) bpm
   BP: 93/49(63) {67/35(48) - 158/96(118)} mmHg
   RR: 21 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 105.4 kg (admission): 123 kg
    CVP: 8 (7 - 8)mmHg
   Total In:
                                                                  4,860 mL
                                                                  6,293 mL
   PO:
   TF:
                                                                    322 mL
                                                                    157 mL
   IVF:
                                                                  4,111 mL
                                                                  5,766 mL
   Blood products:
                                                                    228 mL
                                                                    280 mL
   Total out:
                                                                 10,800 mL
                                                                  2,241 mL
   Urine:
                                                                     26 mL
                                                                      8 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                 -5,940 mL
                                                                  4,052 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/34/144/20/-5
   Ve: 12.3 L/min
   PaO2 / FiO2: 144
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13 K/uL
   8.7 g/dL
   114 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.0 mEq/L
   19 mg/dL
   100 mEq/L
   131 mEq/L
   24.0 %
   0.1 K/uL
        [image002.jpg]
                             [**2145-6-27**]  06:09 AM
                             [**2145-6-27**]  06:21 AM
                             [**2145-6-27**]  11:30 AM
                             [**2145-6-27**]  02:26 PM
                             [**2145-6-27**]  05:30 PM
                             [**2145-6-27**]  05:34 PM
                             [**2145-6-27**]  11:59 PM
                             [**2145-6-28**]  05:00 AM
                             [**2145-6-28**]  05:22 AM
                             [**2145-6-28**]  09:44 AM
   WBC
   0.1
   Hct
   25.9
   25.6
   33
   24.0
   Plt
   19
   18
   42
   13
   Cr
   0.8
   0.7
   TCO2
   26
   26
   25
   23
   20
   Glucose
   77
   178
   114
   Other labs: PT / PTT / INR:13.2/26.6/1.1, CK / CKMB / Troponin-T:70//,
   ALT / AST:115/167, Alk Phos / T Bili:517/6.7, Amylase / Lipase:27/15,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:338 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.9
   g/dL, LDH:834 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   69F w AML s/p 7+3 induction and double cord allo SCT (5/8/9) with
   cardiac and renal failure resulting in hypervolemia and subsequent
   respiratory failure requiring intubation and worsening mental status:
   Tachycardic and Hypotensive overnight.
   # HYPOTENSION: Hypotensive on Arterial Line to high 50s this AM. DDx
   includes Sepsis (Line Infection), Over-Diuresis. Cardiogenic Shock,
   Transfusion Reaction. Less likely PE.
   -          Continue IVF resuscitation
   -          Restart Neo, Levo
   -          BCx, UCx, Sputum Cx
   -          Checking Hemodyanmicaparameters: TTE, CV02,
   -          Increase steroids methylprenisolone 40mg IV BID
   -          Cont Dapto/Cefepime/Micafungin
   -          Restart Linezolid given Dapto resistance
   -          f/u BMT, ID Recs
   -          Will change out CVLs
   # Acute HYPOXIC RESPIRATORY FAILURE: Hypoxemia for volume overload and
   AMS on [**6-15**]. Fluid overload [**2-22**] acute sCHF and ARF.
   -  Continue Pressure Support
   -  Check EKG daily while on haloperidol
   -  Volume removal by CVVH to improve respiratory status
   # ACUTE SYSTOLIC CHF: Likely [**2-22**] Chemotherapy. LVEF 55% at baseline,
   but decreased to 25-30% w chemo, now w some recovery
 LVEF 40% on TTE
   [**6-22**].
   - Continue fluid removal w CVVH
   - Will repeat TTE today
   # ACUTE RENAL FAILURE: Secondary to ATN from hypotension/poor forward
   flow (given granular casts) vs direct renal injury from chemotherapy.
   Pt anuric; temporary HD line placed [**6-15**].
   -  Continue fluid removal w CVVH
   -  Plan to switch to HD early next week
   # BACTEREMIA: VRE Bacteremia seen last on [**6-14**], also h/o E. coli
   bacteremia [**6-3**]. TEE [**6-24**] negative for endocarditis. Currently
   neutropenic.
   - Previously on Daptomycin for VRE, Cefepime for GNR, restarting
   Linezolid
 course to continue for 2 weeks after normal ANC
   - check weekly CK w daptomycin (baselin Ck = 70 on [**6-26**])
   - surveillance cxs if febrile or unstable
   - ID recs
   # PANCYTOPENIA: [**2-22**] chemotherapy. Stopped linezolid on [**6-25**] due to bone
   marrow toxicity
   - daptomycin  for VRE, cefepime for GNR
 course to continue for 2
   weeks after normal ANC
   - micafungin for fungal ppx
   - filgrastim for bone marrow stimulation
   - monitor ANC, Hct, PLTs daily
   - will transfuse platelets <20, or greater when procedures are
   contemplated;
   - transfuse Hct <24 or unstable
   - neutropenic precautions
   - BMT recs
   # ALTERED MENTAL STATUS: Unclear etiology. DDx includes bacteremia,
   sepsis, renal failure/uremia, underlying malignancy, med effect,
   delerium of the critically ill. MRI brain w/o contrast [**6-24**]
   ?mastoiditis, otherwise unremarkable.
   - LP to evaluate CSF
   - transition to antipsychotics from sedation, check daily EKG w
   haloperidol
   - consider neuro c/s if no improvement
   # ATRIAL FIBRILLATION: paroxysmal, likely [**2-22**] stress of acute illness.
   S/p amiodarone, stopped b/c interaction w tacrolimus. Currently in
   sinus rhythm.
   - started on metoprolol, uptitrate PRN as tolerated
   - monitor on telemetry
   # AML: s/p dbl cord SCT on [**5-28**]/9
   - continue methylprednisolone
   - continue MMF (CellCept)
   - BMT recs
   # HYPONATREMIA: normal at baseline, likely [**2-22**] heart, kidney and liver
   failure w resulting hypervolemic hyponatremia
   - monitor Na daily
   - correct with CVVH
   # TRANSAMINITIS: hemolysis from CVVH vs intra hepatic/cholestatic
   process. RUQ U/S  non-diagnostic Also high tube feed residuls, concern
   for obstruction
   - cont to trend, CT if worsening
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-6-15**] 03:54 AM
   Arterial Line - [**2145-6-15**] 08:00 PM
   Dialysis Catheter - [**2145-6-15**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: